2143-07-28 08:56:00 Physician Attending Progress Note
Chief Complaint: [**Age over 90 323**] f w/ h/o HIT c/b ESRD on HD, c/b b/l BKA, recent dx
   of CAP on [**6-23**] who now p/w fever, ongoing hypoxia, and lethargy
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2143-7-28**] 01:50 AM
 DIALYSIS CATHETER - START [**2143-7-28**] 01:56 AM
 EKG - At [**2143-7-28**] 02:00 AM
 ARTERIAL LINE - START [**2143-7-28**] 05:00 AM
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-28**] 03:58 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-28**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-28**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.7
C (96.2
   HR: 106 (106 - 117) bpm
   BP: 107/61(79) {106/56(76) - 107/61(79)} mmHg
   RR: 22 (16 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             4,848 mL
   PO:
             TF:
   IVF:
   1,348 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     10 mL
   Urine:
   10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  4,838 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.23/54/87.[**Numeric Identifier 244**]/18/-5
   Physical Examination
   General: Somnolent, arousable to sternal rub
   HEENT:
   Heart: Irregularly irregular.  Apical murmer.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.2 g/dL
   354 K/uL
   160 mg/dL
   3.1 mg/dL
   18 mEq/L
   4.2 mEq/L
   25 mg/dL
   112 mEq/L
   146 mEq/L
   45.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2143-7-28**]  02:32 AM
                             [**2143-7-28**]  05:45 AM
   WBC
   11.7
   Hct
   45.1
   Plt
   354
   Cr
   3.1
   TropT
   0.17
   TCO2
   24
   Glucose
   160
   Other labs: PT / PTT / INR:38.5/32.6/4.0, CK / CKMB /
   Troponin-T:23/3/0.17, Lactic Acid:1.3 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:4.3 mg/dL,  INR 4.4
   Assessment and Plan
            1. Sepsis:   Source likely pulmonary.   Currently on
   appropriate therapy for HCAP.  Effusion not amenable to thoracentesis.
   -titrate off vasopressors, maintain MAP.   Plan to get OSH TTE
            2.  HCAP: bxcx, sputum if available,
   will evaluate w/ u/s.  DFA pending.
   .
   3.       ECG changes
 lateral st depression.  Trend ck /tn
   4.       HIT + - PTT>150,  Recheck PTT.  Count hold coumadin, goal INR
   2.5-3.0
   5.       ESRD- may need CVVH, bicarb replacement if <7.2.
   6.       Respiratory acidosis
 now resolved on ventilator.  Likely [**2-11**].
   7.       Metabolic acidosis
 plan for  cvvh.  Improved on bicarb gtt.
   8.        AF w/ RVR
 now controlled on lower levophed dose.
   9.        Hypothyroidism
 check TSH to insure not dramatically
   abnormal.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-7-28**] 01:50 AM
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   Prophylaxis:
   DVT: anticoag
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition :
   Total time spent:
   ------ Protected Section ------
   I was physically present with the housestaff team on this date and
   independently examined the patient.  I would agree with the findings
   above and would add the following comments
   Pt with history of malaise, cough and crackles on exam
started on
   Levofloxacin as outpatient.  Did have evolution of hypotension and
   tachycardia [**2143-7-26**] following dialysis with 1.8 liters fluid removal.
   Tachycardia was treated with Lopressor on [**2143-7-27**] and this resulted in
   hypotension.  Patient then to ED with sepsis and likely pulmonary
   source and was supported with 5.5 liters IVF overnight.
   This morning patient with worsening respiratory compromise with
   acidosis worsening and patient inability to evolved adequate
   compensatory response and intubation completed after discussion with
   son.
   Now
   Pt responsive to tactile simulus
   Pt on ventilatory with
   PIP=28, Pplat=24 and
   Lungs
decreased BS bilaterally
   Labs
AG=18
   CXR-Compared with prior films patient does have persistence of
   significant density in LLL distribution
this is an area of chronic
   changes and suggestion of overlying effusion and collapse.  There has
   evolved some opacity of right sided effusion.
   [**Age over 90 323**] yo female with ESRD and now admission with sepsis and likely
   pulmonary source.  She has chronic pulmonary changes and radiographic
   evidence of new overwhelming pneumonia is limited.  Pleural space fluid
   is likely present but of insufficient volume for tap at this time.
   Will
   Continue to treat sepsis with
   Levophed
   IVF
   Vanco/Cefepime/Flagyl
   CVL in right groin placed sterile and will have to evaluate for new
   placement if more chronic support needed
   Continue to treat ventilatory failure with
   A/C support
   Goal pH=7.3
   Continue to treat ESRD
   Dialysis vs. CVVH tomorrow depending on stability.
   Critical Care Time=65 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 983**] [**Last Name (NamePattern1) 984**], MD
   on:[**2143-7-28**] 15:27 ------

2143-07-29 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2143-7-28**] 09:30 AM
 BLOOD CULTURED - At [**2143-7-28**] 10:00 AM
 INVASIVE VENTILATION - START [**2143-7-28**] 11:30 AM
 SPUTUM CULTURE - At [**2143-7-28**] 12:17 PM
   - Admitted to MICU
   - Received 1L NS IV boluses, started on levophed.
   - Abx changed to vanc/cefepime/flagyl per ID.
   - Worsened MS. Not improved despite 500cc fluid bolus. ABG 7.23/54/88
   -> 7.16/69/149. Intubated. 7.37/39/385. FiO2 decreased 100 -> 50%.
   7.48/33/206. RR and FiO2 decreased to 300/20/5/40.
   - Initially started bicarb gtt for bicarb 18; discontinued as in resp
   alkalosis s/p intubation.
   - Paroxysmal aflutter. TSH 3.9.
   - BP low running. Given 500 bolus without improvement. CvO2 83.
   Levophed uptitrated in setting of intubation. CvO2 72. Given 500cc LR
   bolus, 500cc NS. Started on CVVH with attempt to taper off levophed
   overnight.
   - INR 7.3 this AM.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-28**] 03:58 AM
   Cefipime - [**2143-7-28**] 12:17 PM
   Metronidazole - [**2143-7-28**] 09:31 PM
   Infusions:
   Fentanyl (Concentrate) - 40 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-29**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.6
C (96
   HR: 91 (87 - 112) bpm
   BP: 101/58(76) {88/48(63) - 124/73(93)} mmHg
   RR: 16 (14 - 30) insp/min
   SpO2: 86%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 56.1 kg (admission): 53.2 kg
             Total In:
                                                                  9,598 mL
                                                                  2,018 mL
   PO:
             TF:
   IVF:
                                                                  6,098 mL
                                                                  2,018 mL
   Blood products:
   Total out:
                                                                    617 mL
                                                                  1,823 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,981 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (300 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 21.7 cmH2O/mL
   SpO2: 86%
   ABG: 7.41/38/173/24/0
   Ve: 5.1 L/min
   PaO2 / FiO2: 433
   Physical Examination
   General: intubated, sedated, on CVVH
   HEENT: Sclera anicteric, MMM,+ETT
   Neck: supple, JVP flat, no LAD
   Lungs: bibasilar crackles.
   CV: Irregularly irregular, [**1-15**] murmur at LSB. No rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Upper extremities without palpable pulses, R IJ tunnelled dialysis
   catheter, L femoral line, L arterial line. Bilateral lower extremity
   AKA.
   Labs / Radiology
   267 K/uL
   11.1 g/dL
   143 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.4 mEq/L
   18 mg/dL
   106 mEq/L
   142 mEq/L
   40.7 %
   11.0 K/uL
        [image002.jpg]
                             [**2143-7-28**]  10:29 AM
                             [**2143-7-28**]  12:49 PM
                             [**2143-7-28**]  01:00 PM
                             [**2143-7-28**]  02:37 PM
                             [**2143-7-28**]  03:00 PM
                             [**2143-7-28**]  06:00 PM
                             [**2143-7-28**]  09:18 PM
                             [**2143-7-28**]  09:34 PM
                             [**2143-7-29**]  02:15 AM
                             [**2143-7-29**]  02:24 AM
   WBC
   11.0
   Hct
   40.7
   Plt
   267
   Cr
   3.0
   2.0
   TCO2
   26
   23
   25
   24
   25
   Glucose
   167
   175
   145
   120
   143
   Other labs: PT / PTT / INR:63.9/40.2/7.3, CK / CKMB /
   Troponin-T:16/3/0.14, Lactic Acid:1.4 mmol/L, Ca++:9.0 mg/dL, Mg++:1.5
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   [**Age over 90 323**] yo woman with hx of HIT, ESRD on HD, s/p b/l AKA presents with
   hypoxia, hypotension and infiltrate and effusion on CXR.
   .
   # Septic shock: Patient presented tachycardic, febrile and hypotensive
   requiring levaphed in ED. Likely pulm source given LLL infiltrate
   although largely unchanged from 4 days prior. Other possible infectious
   etiologies include meningitis, urosepsis, GI source.
   - fem line in place
   - LR IVF boluses and pressors to keep MAP>65; may need increased MAP if
   improved mental status observed with higher BP
   - check CvO2
   - continue Vanc/Zosyn
   - blood, urine, sputum cx; ultrasound for evidence of tapable pleural
   effusion
   - stool for C diff
   .
   # Pneumonia: LLL infiltrate seen on CXR and bilateral plerual effusion
   seen on lung cuts of CT abd.  Was on treatment with Levofloxacin since
   [**7-23**].
   - continue vanc/zosyn as above
   - send sputum cx
   - chest PT
   - Consider chest CT and thoracentesis in AM (would need FFP for
   supratherapeutic INR)
   - O2 to maintain sats > 93%
   - DFA for flu given daughters with similar symptoms
   .
   # AMS: [**Month (only) 60**] be related to hypoperfusion in setting of sepsis.
   Hypercarbia also on differential.
   - check ABG
   - If no improvement with improved BP, consider CT head to r/o
   hemorrhage given elevated INR
   # ECG changes: Patient with ST depressions in I aVL and V4-V6 with
   TWI.  First trop was 0.20 which is her baseline in setting of ESRD.
   Not complaining of chest pain although currently poor historian
   - cycle CE
   .
   # HIT: Diagnosed in [**12/2141**] and complicated by thrombus in b/l lower
   extrem requiring amputations. PTT initially very elevated but nl on
   repeat; may have been spurious value.
   - NO HEPARIN PRODUCTS
   - Hold coumadin for now given supratherapeutic level
   - trend coags
   .
   # Acidosis: Anion gap metabolic acidosis in setting of sepsis. Also
   respiratory acidosis with ddx hypoventilation (no known COPD), dead
   space ventilation, hypermetabolic
   - Recheck ABG, lactate
   - bicarb if pH worsening
   - LR for IVF boluses prn
   .
   # ESRD on HD: Currently lytes WNL and does not appear to have increased
   pulm edema.
   - f/u renal recs re: HD v. CVVH
   - bicarb replacement if pH <7.2
   - continue sevelamir
   .
   # CAD: Patient had NSTEMI in [**2142**].
   - continue ASA
   .
   # A-fib with RVR: HR low 100s (baseline tachycardia) as holding metop
   in setting of hypotension
   - IVF first. If persistantly tachy, consider amio bolus.
   - obtain record of TTE
   .
   # Hypothyroid: Last TSH of 4.2 in 4/[**2143**].
   - continue levothyroxine, change to IV as NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-7-28**] 01:50 AM
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   Prophylaxis:
   DVT: Supratherapeutic INR; NO HEPARIN PRODUCTS
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 552**] son [**Name (NI) 435**] [**Name (NI) 2807**] (dentist) -
   [**Telephone/Fax (1) 9663**]
   Code status: Full code
   Disposition:

2143-07-29 12:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   levophed weaned down overnight. INR rising
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-28**] 03:58 AM
   Metronidazole - [**2143-7-28**] 09:31 PM
   Cefipime - [**2143-7-29**] 08:08 AM
   Infusions:
   Fentanyl (Concentrate) - 40 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Vanco IV, Renagel, Protonix, Lipitor, ASA, Levophed 0.09 mcg/kg/min,
   Synthroid, Flagyl, Cefepime, Peridex, Versed gtt, Fentanyl gtt
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-29**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.3
C (95.6
   HR: 98 (87 - 98) bpm
   BP: 92/58(71) {88/48(63) - 124/73(93)} mmHg
   RR: 15 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 56.1 kg (admission): 53.2 kg
             Total In:
                                                                  9,599 mL
                                                                  3,650 mL
   PO:
             TF:
   IVF:
                                                                  6,099 mL
                                                                  3,650 mL
   Blood products:
   Total out:
                                                                    617 mL
                                                                  3,251 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,982 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (300 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 21.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/38/161/24/1
   Ve: 5.1 L/min
   PaO2 / FiO2: 403
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, R> L UE edema
   Musculoskeletal: s/p bilateral AKA
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   267 K/uL
   131 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.4 mEq/L
   13 mg/dL
   102 mEq/L
   141 mEq/L
   40.7 %
   11.0 K/uL
        [image002.jpg]
                             [**2143-7-28**]  01:00 PM
                             [**2143-7-28**]  02:37 PM
                             [**2143-7-28**]  03:00 PM
                             [**2143-7-28**]  06:00 PM
                             [**2143-7-28**]  09:18 PM
                             [**2143-7-28**]  09:34 PM
                             [**2143-7-29**]  02:15 AM
                             [**2143-7-29**]  02:24 AM
                             [**2143-7-29**]  09:09 AM
                             [**2143-7-29**]  09:12 AM
   WBC
   11.0
   Hct
   40.7
   Plt
   267
   Cr
   3.0
   2.0
   1.5
   TCO2
   25
   24
   25
   26
   Glucose
   167
   175
   145
   120
   143
   131
   Other labs: PT / PTT / INR:82.9/46.2/10.0, CK / CKMB /
   Troponin-T:16/3/0.14, Fibrinogen:254 mg/dL, Lactic Acid:1.4 mmol/L,
   Ca++:9.5 mg/dL, Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: fibrinogen- 254
   anion gap- 17 (corrected for albumin)
   Imaging: [**7-29**] CXR- LLL infiltrate
   Microbiology: [**7-28**] Viral screen- neg
   [**7-28**] pan culture pending
   Assessment and Plan
   [**Age over 90 323**] f w/ h/o HIT c/b ESRD on HD, c/b b/l BKA, recent dx of CAP on [**6-23**]
   who now p/w fever, ongoing hypoxia, and lethargy.
   1. Septic shock: Source likely pulmonary.   Currently on appropriate
   therapy for HCAP.  Effusion not amenable to thoracentesis.
   -IVF resuscitation to target pressor req't as goal
   -titrate off vasopressors, maintain MAP.
   -check echo
   -keep fem line for now but consider re-siting if prolonged pressor need
   2.  HCAP: bxcx, sputum if available,
   -vanco + cefepime; dc metronidazole today
   -vanco dosing and follow levels
   3. Hypoxemic resp failure: due to pneumonia and effusion as above
   -wean went as mental status allows; PSV trial
   -daily awakening trials
   4. ECG changes
 lateral st depression.  Trend ck /tn
   -check echo as above
   5.  HIT + - PTT>150,  Recheck PTT.  Count hold coumadin, goal INR
   2.5-3.0
   6.  ESRD- may need CVVH, bicarb replacement if <7.2.
   7.  AF w/ RVR
 now controlled on lower levophed dose.
   ICU Care
   Nutrition:
   Comments: holding on OGT given coagulopathy, will add D5 to fluids
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2143-7-28**] 01:50 AM
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I was physically present with the resident team on this date for
   discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments: [**Age over 90 323**] yo female with afib, ESRD on HD, hx HIT admitted
   with sepsis presumptive pulmonary source, with septic shock and acute
   respiratory failure. BP's continue to be low requiring pressors,
   remains on mechanical ventilation. On vancomycin and cefipime with no
   organisms yet recovered from microbiology. INR remains
   supratherapeutic. Plan is to continue antibiotics, support BP with
   fluids and pressors as needed, and continue ventilator support.
   Pt is critically ill. Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2143-7-29**] 17:23 ------

2143-07-30 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - stopped flagyl
   - INR plateaued at 10.8, down to 10.6 in late evening
   - had short 30 beat SVT once
   - continued CVVH
   - changed vanco and cefepime dosing per CVVH protocol
   - given fluid bolus trial, which helps tachycardia transiently, but
   unable to wean levofed much, still with MAPs around 60-65
   - around 11pm, went into afib with rates around 110-120
   - another 500 cc bolus given and responded
   - continued to give IV fluid boluses overnight
   - stopped CVVH secondary to rising Ca but falling ionized Ca (per Dr.
   [**Last Name (STitle) 1948**], likely due to citrate toxicity, plan for about 12 hours off of
   CVVH and then consider restarting based on labs
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-28**] 03:58 AM
   Metronidazole - [**2143-7-28**] 09:31 PM
   Vancomycin - [**2143-7-29**] 08:00 PM
   Cefipime - [**2143-7-30**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 30 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-30**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-30**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.5
   HR: 103 (92 - 112) bpm
   BP: 84/49(63) {77/46(59) - 106/67(82)} mmHg
   RR: 18 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 56.1 kg (admission): 53.2 kg
             Total In:
                                                                 10,281 mL
                                                                  2,443 mL
   PO:
             TF:
   IVF:
                                                                 10,281 mL
                                                                  2,443 mL
   Blood products:
   Total out:
                                                                  7,327 mL
                                                                  1,559 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,954 mL
                                                                    884 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/41/163/22/1
   Ve: 5.4 L/min
   PaO2 / FiO2: 408
   Physical Examination
   General: intubated, sedated, off CVVH
   HEENT: Sclera anicteric, MMM,+ETT
   Neck: supple, JVP flat, no LAD
   Lungs: bibasilar crackles.
   CV: Irregularly irregular, [**1-15**] murmur at LSB. No rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Upper extremities without palpable pulses, R IJ tunnelled dialysis
   catheter, L femoral line, L arterial line. Bilateral lower extremity
   AKA., R hand more swollen than L, L hand with ecchymosis and skin tear
   with bloody drainage
   Labs / Radiology
   216 K/uL
   11.6 g/dL
   128 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.3 mEq/L
   6 mg/dL
   100 mEq/L
   137 mEq/L
   40.8 %
   11.3 K/uL
        [image002.jpg]
                             [**2143-7-29**]  02:24 AM
                             [**2143-7-29**]  09:09 AM
                             [**2143-7-29**]  09:12 AM
                             [**2143-7-29**]  02:30 PM
                             [**2143-7-29**]  02:37 PM
                             [**2143-7-29**]  08:02 PM
                             [**2143-7-29**]  08:09 PM
                             [**2143-7-29**]  11:56 PM
                             [**2143-7-30**]  02:02 AM
                             [**2143-7-30**]  02:10 AM
   WBC
   11.3
   Hct
   39.1
   40.8
   Plt
   216
   Cr
   1.5
   1.4
   1.2
   0.9
   TCO2
   25
   26
   26
   28
   27
   Glucose
   131
   108
   116
   128
   Other labs: PT / PTT / INR:87.0/51.4/10.6, CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:94.0 %, Band:1.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:0.0 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:10.6 mg/dL, Mg++:1.2 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
   [**Age over 90 323**] yo woman with hx of HIT, ESRD on HD, s/p b/l AKA presents with
   hypoxia, hypotension and infiltrate and effusion on CXR.
   .
   # Septic shock: Patient presented tachycardic, febrile and hypotensive
   requiring levaphed in ED. Likely pulm source given LLL infiltrate
   although largely unchanged from 4 days prior. Other possible infectious
   etiologies include meningitis, urosepsis, GI source.  Now afebrile, but
   still hypotensive requiring levo.
   - fem line in place, will need to think about replacing line
   - NS IVF boluses and pressors to keep MAP>60, has low BPs at baseline,
   so decreased MAP goal, will continue to be aggressive with D5NS today
   and trying to wean pressor
   - challenged with fluid boluses yesterday and slighty decrease in
   levofed dosage, but still not much response, good response in
   tachycardia, though; consider allowing lower MAPs in setting of chronic
   low BPs at home
   - continue Vanc/cefepime, day 3
   - blood, urine, sputum cx; no growth to date, viral swab for flus
   negative
   - stool for C diff
   .
   # Pneumonia: LLL infiltrate seen on CXR and bilateral plerual effusion
   seen on lung cuts of CT abd.  Was on treatment with Levofloxacin since
   [**7-23**].
   - continue vanc/cefepime as above
   - no culture data to date
   - chest PT
   - O2 to maintain sats > 93%
   - DFA for flu negative
   .
   # Respiratory Failure
 secondary to PNA, now intubated.
    - has been doing well on AC, can consider sedation trial and possible
   wean to PS today
   .
   # Tachycardia/afib
 patient atlernating between sinus tach around 100
   and afib with rates around 110 to 120s.  Rate is somewhat repsonsive to
   fluids.  Patient has been on metoprolol at home, but being held in
   setting of hypotension.  Although can continue fluids as needed, can
   possibly consider tighter rate control with hopes that BP improves.
   - echo today to assess for cardiomyopathy in setting of sepsis vs.
   hypotension secondary to cardiac shock
   .
   # Elevated INR
 INR to 10.8 peak in setting of coumadin and antibiotic
   therapy
   - trend INR, coming down
   - no evidence of bleeding clinically, will trend Hct
   - will reverse with FFP is starts to bleed or large hct drop
   - want to avoid reversal due to hx of HIT and would have to use
   argatroban to anticoagulate
   - consider reversal with FFP tomorrow to resite line and possibly place
   OG tube
   .
   # HIT: Diagnosed in [**12/2141**] and complicated by thrombus in b/l lower
   extrem requiring amputations. PTT initially very elevated but nl on
   repeat; may have been spurious value.
   - NO HEPARIN PRODUCTS
   - Hold coumadin for now given supratherapeutic level
 see above for
   discusiion
   - trend coags
   .
   # ESRD on HD: Currently lytes WNL and does not appear to have increased
   pulm edema, stable on trach settings.
   - f/u renal recs, has started on CVVH, stopped overnight because Ca
   increasing and ionized Ca decreasing, with hypomag and
   hypophosphetemia; considering citrate toxicity as a cause
   - renal following along, Dr. [**Last Name (STitle) 1948**]
   - continue to monitor q6hr labs
   .
   # L Hand swelling: noticed overnight with very white fingers on L hand,
   now more normal, R hand still more swollen
   - RUE US to rule out clot around HD cath
   .
   # CAD: Patient had NSTEMI in [**2142**].
   - continue ASA
   .
   # Hypothyroid: Last TSH of 4.2 in 4/[**2143**].
   - continue levothyroxine, change to IV as NPO
   ICU Care
   Nutrition: no PO access
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-7-28**] 01:50 AM
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   Prophylaxis:
   DVT: supratherapeutic
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: with son
   [**Name (NI) 66**] status: Full code
   Disposition:in ICU

2143-07-30 09:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received 2.5-3.0L IVF yest but still pressor-dependent. Per Renal svce
   holding CVVH today.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-28**] 03:58 AM
   Metronidazole - [**2143-7-28**] 09:31 PM
   Vancomycin - [**2143-7-29**] 08:00 PM
   Cefipime - [**2143-7-30**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 30 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-30**] 04:00 AM
   Other medications:
   Renagel, Peridex, cefepime IV, Vanco IV
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-30**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 104 (96 - 115) bpm
   BP: 84/42(58) {71/41(53) - 106/61(79)} mmHg
   RR: 15 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.8 kg (admission): 53.2 kg
             Total In:
                                                                 10,281 mL
                                                                  3,001 mL
   PO:
             TF:
   IVF:
                                                                 10,281 mL
                                                                  3,001 mL
   Blood products:
   Total out:
                                                                  7,327 mL
                                                                  1,559 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,954 mL
                                                                  1,442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/41/163/26/1
   Ve: 5.3 L/min
   PaO2 / FiO2: 408
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Bilateral AKA, R>L UE swelling
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   221 K/uL
   94 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.1 mEq/L
   5 mg/dL
   100 mEq/L
   137 mEq/L
   38.3 %
   11.2 K/uL
        [image002.jpg]
                             [**2143-7-29**]  09:09 AM
                             [**2143-7-29**]  09:12 AM
                             [**2143-7-29**]  02:30 PM
                             [**2143-7-29**]  02:37 PM
                             [**2143-7-29**]  08:02 PM
                             [**2143-7-29**]  08:09 PM
                             [**2143-7-29**]  11:56 PM
                             [**2143-7-30**]  02:02 AM
                             [**2143-7-30**]  02:10 AM
                             [**2143-7-30**]  07:17 AM
   WBC
   11.3
   11.2
   Hct
   39.1
   40.8
   38.3
   Plt
   216
   221
   Cr
   1.5
   1.4
   1.2
   0.9
   1.0
   TCO2
   26
   26
   28
   27
   Glucose
   131
   108
   116
   128
   94
   Other labs: PT / PTT / INR:85.3/55.2/10.3, CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:94.0 %, Band:1.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:0.0 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:9.8 mg/dL, Mg++:1.2 mg/dL,
   PO4:1.8 mg/dL
   Fluid analysis / Other labs: Guaiac positive stools (brown)
   Vanco trough 14
   Imaging: [**7-30**] CXR- L effusion and infiltrate
   Microbiology: [**7-29**] C diff pending
   [**7-28**] Pan culture- pending
   Assessment and Plan
   [**Age over 90 323**] f w/ h/o HIT c/b ESRD on HD, c/b b/l BKA, recent dx of CAP on [**6-23**]
   who now p/w presumed septic shock
   1. Septic shock: Source likely pulmonary.   Currently on appropriate
   therapy for HCAP.  Effusion not amenable to thoracentesis.
   -cont IVF resuscitation, esp off CVVH, to target pressor req't as goal
   -titrate off vasopressors, maintain goal MAP >60.
   -check echo
   -keep fem line for now but consider re-siting if prolonged pressor need
   2.  HCAP: bxcx, sputum if available,
   -vanco + cefepime
   -vanco dosing back to HD dosing
   3. Hypoxemic resp failure: due to pneumonia and effusion as above
   -wean went as mental status allows and trial PSV
   4.  Coagulopathy- elevated PT/INR related to ABX and coumadin tx, prior
   HIT dx.
   -cont hold coumadin, goal INR 2.5-3.0
   -holding ASA while coagulopathic
   -defer active reversal given no bleeding evidence
   5.  ESRD- was on CVVH, per Renal trial off today and possible
   resumption of int HD as tolerated
   6. Afib- holding rate control for hypotension and coumadin for
   coagulopathy
   ICU Care
   Nutrition:
   Comments: enteric access deferred for coagulopathy
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2143-7-28**] 01:50 AM
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I was physically present with the MICU housestaff team on this date for
   discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments: [**Age over 90 323**] yo female with afib, ESRD on HD, hx HIT admitted
   with sepsis /PNA, with septic shock and acute respiratory failure.
   Minimal change in level of pressor requirements over the past day. She
   may still be under-resuscitated, though her renal failure and our
   inability to obtain a CVP [**Location (un) 308**] make it difficult to assess her
   volume status. Will continue her on AC ventilation for acute resp.
   failure, wean vent as tolerated, continue antibiotics, give additional
   IVF in an attempt to reduce pressor needs, and re-assess LV function
   with echo. Remains hypercoagulopathic precluding change in CVL.
   Pt is critically ill. Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2143-7-30**] 16:35 ------

2143-07-31 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2143-7-30**] 11:15 AM
   u/s of right upper arm-no DVT
 TRANSTHORACIC ECHO - At [**2143-7-30**] 02:56 PM
   .
   - 1 gram of vanco given, vanco/cefepime changed to HD protocol
   - aspirin stopped
   - remains on 0.08 of levophed in spite of 3.5L D5NS boluses
   - RUE U/s- negative for DVT
   - Echo:
   The left atrium is moderately dilated. There is mild symmetric left
   ventricular hypertrophy. The left ventricular cavity size is normal.
   There is severe global left ventricular hypokinesis (LVEF = 20 %). The
   estimated cardiac index is depressed (<2.0L/min/m2). Tissue Doppler
   imaging suggests an increased left ventricular filling pressure
   (PCWP>18mmHg). The right ventricular cavity is mildly dilated with
   moderate global free wall hypokinesis. The aortic valve leaflets are
   severely thickened/deformed. There is severe aortic valve stenosis
   (valve area 0.8-1.0cm2). The mitral valve leaflets are moderately
   thickened. There is no mitral valve prolapse. There is moderate
   thickening of the mitral valve chordae. Mild (1+) mitral regurgitation
   is seen. The tricuspid valve leaflets are mildly thickened. The
   estimated pulmonary artery systolic pressure is normal. There is a
   trivial/physiologic pericardial effusion.
   IMPRESSION: Severe aortic stenosis. Severe global left ventricular
   systolic function. Mildly dilated right ventricle with global
   hypokinesis. Depressed cardiac index.
   Compared with the prior study (images reviewed) of [**2142-2-7**], left
   ventricular systolic function has declined. The severity of aortic
   stenosis has significantly progressed.
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Metronidazole - [**2143-7-28**] 09:31 PM
   Cefipime - [**2143-7-30**] 08:00 AM
   Vancomycin - [**2143-7-30**] 12:25 PM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain.
   Flowsheet Data as of  [**2143-7-31**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 109 (94 - 124) bpm
   BP: 81/42(57) {70/37(51) - 115/60(82)} mmHg
   RR: 14 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.8 kg (admission): 53.2 kg
             Total In:
                                                                  6,089 mL
                                                                    730 mL
   PO:
             TF:
   IVF:
                                                                  6,089 mL
                                                                    730 mL
   Blood products:
   Total out:
                                                                  1,759 mL
                                                                    450 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    200 mL
                                                                    450 mL
   Balance:
                                                                  4,330 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 294 (294 - 294) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/39/163/23/0
   Ve: 4.9 L/min
   PaO2 / FiO2: 408
   Physical Examination
   General: intubated, sedated, off CVVH
   HEENT: Sclera anicteric, MMM,+ETT
   Neck: supple, JVP flat, no LAD
   Lungs: bibasilar crackles.
   CV: Irregularly irregular, [**1-15**] murmur at LSB. No rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Upper extremities without palpable pulses, R IJ tunnelled dialysis
   catheter, L femoral line, L arterial line. Bilateral lower extremity
   AKA., R hand more swollen than L, L hand with ecchymosis and skin tear
   with bloody drainage
   Labs / Radiology
   188 K/uL
   10.6 g/dL
   173 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.3 mEq/L
   8 mg/dL
   104 mEq/L
   135 mEq/L
   37.3 %
   12.7 K/uL
        [image002.jpg]
                             [**2143-7-29**]  11:56 PM
                             [**2143-7-30**]  02:02 AM
                             [**2143-7-30**]  02:10 AM
                             [**2143-7-30**]  07:17 AM
                             [**2143-7-30**]  02:51 PM
                             [**2143-7-30**]  03:13 PM
                             [**2143-7-30**]  11:14 PM
                             [**2143-7-30**]  11:57 PM
                             [**2143-7-31**]  05:03 AM
                             [**2143-7-31**]  05:08 AM
   WBC
   11.3
   11.2
   12.7
   Hct
   39.1
   40.8
   38.3
   37.3
   Plt
   [**Telephone/Fax (3) 9708**]
   Cr
   0.9
   1.0
   1.2
   1.3
   1.4
   TCO2
   27
   27
   26
   26
   Glucose
   128
   94
   [**Telephone/Fax (3) 9709**]
   Other labs: PT / PTT / INR:65.2/57.9/7.5, CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:2.0 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   [**Age over 90 323**] yo woman with hx of HIT, ESRD on HD, s/p b/l AKA presents with
   hypoxia, hypotension and infiltrate and effusion on CXR.
   .
   # Septic shock: Patient presented tachycardic, febrile and hypotensive
   requiring levaphed in ED. Likely pulm source given LLL infiltrate
   although largely unchanged from 4 days prior. Other possible infectious
   etiologies include meningitis, urosepsis, GI source.  Now afebrile, but
   still hypotensive requiring levo.
   - fem line in place, will need to think about replacing line, will
   likely do today.
   - D5NS IVF boluses and pressors to keep MAP>60, has low BPs at
   baseline, so decreased MAP goal, will continue to be aggressive with
   D5NS today and trying to wean pressor
   - challenged with fluid boluses yesterday and slighty decrease in
   levofed dosage, but still not much response, good response in
   tachycardia, though; consider allowing lower MAPs in setting of chronic
   low BPs at home
   - continue Vanc/cefepime, day 4
   - blood, urine, sputum cx; no growth to date, viral swab for flus
   negative
   - stool for C diff
   -will consider change to dopamine today as unclear if truly septic
   shock given no response to tx for this.
   .
   # Pneumonia: LLL infiltrate seen on CXR and bilateral plerual effusion
   seen on lung cuts of CT abd.  Was on treatment with Levofloxacin since
   [**7-23**].
   - continue vanc/cefepime as above
   - no culture data to date
   - chest PT
   - O2 to maintain sats > 93%
   - DFA for flu negative
   .
   #heart failure-as evidenced on yesterday
s echo. Severe AS and
   biventricular failure. EF ~20%. Could be secondary to infection vs.
   cardiac process.
   -consider change in pressor to dopamine
   -cardiology consult-will need to consider optimization of heart failure
   regimen if clnical picture consistent.
   .
   # Respiratory Failure
 secondary to PNA, now intubated.
    - has been doing well on AC, can consider sedation trial and possible
   wean to PS today
   .
   # Tachycardia/afib
 patient atlernating between sinus tach around 100
   and afib with rates around 110 to 120s.  Rate is somewhat repsonsive to
   fluids.  Patient has been on metoprolol at home, but being held in
   setting of hypotension.  Although can continue fluids as needed, can
   possibly consider tighter rate control with hopes that BP improves.
   - echo as above. INR supratherapeutic
   .
   # Elevated INR
 INR to 10.8 peak in setting of coumadin and antibiotic
   therapy
   - trend INR, coming down
   - no evidence of bleeding clinically, will trend Hct
   - will reverse with FFP if starts to bleed or large hct drop
   - want to avoid reversal due to hx of HIT and would have to use
   argatroban to anticoagulate
   - FFP today to resite line and place OGT.
   .
   # HIT: Diagnosed in [**12/2141**] and complicated by thrombus in b/l lower
   extrem requiring amputations. PTT initially very elevated but nl on
   repeat; may have been spurious value.
   - NO HEPARIN PRODUCTS
   - Hold coumadin for now given supratherapeutic level
 see above for
   discusiion
   - trend coags
   .
   # ESRD on HD: Currently lytes WNL and does not appear to have increased
   pulm edema, stable on trach settings.
   - f/u renal recs, has started on CVVH, stopped overnight because Ca
   increasing and ionized Ca decreasing, with hypomag and
   hypophosphetemia; considering citrate toxicity as a cause
   - renal following along, Dr. [**Last Name (STitle) 1948**]
   - continue to monitor q6hr labs
   -will d/w renal re: plans for CVVH or HD
   .
   # L Hand swelling: noticed overnight with very white fingers on L hand,
   now more normal, R hand still more swollen
   - RUE US to rule out clot around HD cath, no clot.
   .
   # CAD: Patient had NSTEMI in [**2142**].
   - continue ASA
   -will likely need optimization.
   .
   # Hypothyroid: Last TSH of 4.2 in 4/[**2143**].
   - continue levothyroxine, change to IV as NPO
   ICU Care
   Nutrition: will place ogt today and begin tube feeds.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-7-28**] 01:50 AM
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   Prophylaxis:
   DVT: INR supratherapeutic.
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-07-31 10:42:00 Physician Attending Progress Note
Chief Complaint: hypotension, acute respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 323**] yo female with ESRD on HD, hx HIT , s/p bilateral AKA's admitted
   with hypotension from presumed PNA/sepsis, subsequent acute respiratory
   failure requiring intubation/mechanical ventilation
   24 Hour Events:
 ULTRASOUND - At [**2143-7-30**] 11:15 AM
   u/s of right upper arm: no DVT
 TRANSTHORACIC ECHO - At [**2143-7-30**] 02:56 PM: severe AoS with global
   rreduction in LVef to 20%; global HK; worse compared to [**2142**] Echo
   *ASA stopped
   *Received aggressive IVF but continued to be pressor-dependent
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Metronidazole - [**2143-7-28**] 09:31 PM
   Vancomycin - [**2143-7-30**] 12:25 PM
   Cefipime - [**2143-7-31**] 08:33 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Sevalamir, Pantoprazole . Levophed dose unchanged.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-31**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 108 (94 - 124) bpm
   BP: 81/43(57) {70/37(51) - 115/60(82)} mmHg
   RR: 18 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.9 kg (admission): 53.2 kg
             Total In:
                                                                  6,089 mL
                                                                    876 mL
   PO:
             TF:
   IVF:
                                                                  6,089 mL
                                                                    876 mL
   Blood products:
   Total out:
                                                                  1,759 mL
                                                                    550 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    200 mL
                                                                    550 mL
   Balance:
                                                                  4,330 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 286 (247 - 294) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/39/163/23/0
   Ve: 4.6 L/min
   PaO2 / FiO2: 408
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: RRR, 2/6 SEM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical)
   Abdominal: Soft, +bs nondistended
   Extremities: No(t) Cyanosis, No(t) Clubbing; ++edema, s/p bilateral
   AKA
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Difficult to assess due to sedation and pt
s difficulty
   hearing (Deaf), normal tone,
   Labs / Radiology
   10.6 g/dL
   188 K/uL
   173 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.3 mEq/L
   8 mg/dL
   104 mEq/L
   135 mEq/L
   37.3 %
   12.7 K/uL
        [image002.jpg]
                             [**2143-7-29**]  11:56 PM
                             [**2143-7-30**]  02:02 AM
                             [**2143-7-30**]  02:10 AM
                             [**2143-7-30**]  07:17 AM
                             [**2143-7-30**]  02:51 PM
                             [**2143-7-30**]  03:13 PM
                             [**2143-7-30**]  11:14 PM
                             [**2143-7-30**]  11:57 PM
                             [**2143-7-31**]  05:03 AM
                             [**2143-7-31**]  05:08 AM
   WBC
   11.3
   11.2
   12.7
   Hct
   39.1
   40.8
   38.3
   37.3
   Plt
   [**Telephone/Fax (3) 9708**]
   Cr
   0.9
   1.0
   1.2
   1.3
   1.4
   TCO2
   27
   27
   26
   26
   Glucose
   128
   94
   [**Telephone/Fax (3) 9709**]
   Other labs: PT / PTT / INR:65.2/57.9/7.5 (decreased), CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:2.0 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.1 mg/dL
   Imaging: Echo: [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 9710**] dilated, mild symm LVH, LV size normal,
   severe global LV HK; ef 20%, CI depressed, increased LV filling
   pressures, RV mildly dilated, moderate free wall H, Aov severely
   deformed, severe AoS with area 0.8-1, no MVP, moderate thickening of MV
   chordae, TC leaflets mildly thickened, trivial pericardial effusion
   Microbiology: Cx's NGTD
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 INEFFECTIVE COPING
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 .H/O THROMBOCYTOPENIA, HEPARIN-INDUCED (HIT, HITT)
 PLEURAL EFFUSION, ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   [**Age over 90 323**] yo female with ESRD on HD, atrial fibrillation, CAD admitted with
   hypotension attributed to PNA/sepsis. She has been treated with broad
   spectrum abx and pressors for 4 days with no fevers, and no recovery of
   infectious organisms from micro cultures. Despite abx coverage, there
   has been no meaningful change in level of pressor requirements.
   1.       Shock: Initial impression was for septic +/-hypovolemic shock-
   has been treated with fluids and abx but unable to significantly reduce
   pressors, with concern that sepsis may not fully explain her
   hypotension
   -On vanc and cefipime
 continue to follow up micro data
   -Check cortisol level
   -levophed to maintain MAP>60
   - Will back off on further fluid resuscitation, and check a CVP and
   central venous sat once new CVL established
   2.       Ao stenosis: - given Echo findings, concerns that  shock has a
   significant cardiogenic component
   - will begin restricting IVF, check CVP once CVL re-sited
   - Cardiology consult
   -Not on afterload reduction due to hypotension
   3.       Acute respiratory failure: apneic spells on PSV yesterday in
   the context of sedation. Wean ventilator as tolerated
   4.       Atrial fibrillation- rate relatively controlled
   5.       elevated INR- levels down slightly this morning
   - ffp to allow OGT placement and re-site CVL
   6.       HIT: no heparin products
   7.       ESRD: Renal team following; CVVH held due to concerns for
   citrate toxicity
   They will reassess need for HD vs CVVH today
         8. Line access- has femoral line placed upon admission- plan to
   get IJ CVL then dc the femoral line
         9.     Social
 anticipate need to set up family meeting later
   this week to discuss pt
s hospital course and further goals of care
   ICU Care
   Nutrition: has been NPO since admission
 will start enteral feeds once
   OGT established
   Glycemic Control:
   Lines: right femoral
   Multi Lumen - [**2143-7-28**] 01:50 AM
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   Prophylaxis:
   DVT: INR
s are supratherapeutic
   Stress ulcer: PPI
   VAP: elevate HOB, mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2143-08-01 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2143-7-31**] 03:36 PM
 MULTI LUMEN - STOP [**2143-7-31**] 04:45 PM
   .
   -renal, Dr. [**Last Name (STitle) 1948**], confirms that echo findings are not new
   -cardiology consulted, rec: dig for rate control, after wean and extub.
   If still persistently hypotensive can consider cardioversion for afib.
   -given 4 units of FFP
   -attempted to place L.IJ unable to cannulate vein
   -OGT placed.
   -started on tube feeds
   -cortisol 12.9
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Vancomycin - [**2143-7-30**] 12:25 PM
   Cefipime - [**2143-7-31**] 08:33 AM
   Infusions:
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2143-7-31**] 04:32 PM
   Midazolam (Versed) - [**2143-7-31**] 04:33 PM
   Pantoprazole (Protonix) - [**2143-8-1**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-1**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 109 (97 - 135) bpm
   BP: 88/50(65) {65/40(50) - 110/62(80)} mmHg
   RR: 17 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.9 kg (admission): 53.2 kg
   Height: 61 Inch
             Total In:
                                                                  2,413 mL
                                                                    305 mL
   PO:
             TF:
                                                                     81 mL
                                                                    112 mL
   IVF:
                                                                  1,119 mL
                                                                    194 mL
   Blood products:
                                                                  1,183 mL
   Total out:
                                                                    750 mL
                                                                     50 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    750 mL
                                                                     50 mL
   Balance:
                                                                  1,663 mL
                                                                    255 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 286 (247 - 299) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.41/40/193/23/1
   Ve: 3 L/min
   PaO2 / FiO2: 483
   Physical Examination
   General: intubated, sedated, off CVVH
   HEENT: Sclera anicteric, MMM,+ETT
   Neck: supple, JVP flat, no LAD
   Lungs: bibasilar crackles.
   CV: Irregularly irregular, [**1-15**] murmur at LSB. No rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Upper extremities without palpable pulses, R IJ tunnelled dialysis
   catheter, L femoral line, L arterial line. Bilateral lower extremity
   AKA., R hand more swollen than L, L hand with ecchymosis and skin tear
   with bloody drainage
   Labs / Radiology
   178 K/uL
   9.3 g/dL
   114 mg/dL
   1.8 mg/dL
   23 mEq/L
   3.1 mEq/L
   10 mg/dL
   104 mEq/L
   137 mEq/L
   32.2 %
   9.8 K/uL
        [image002.jpg]
                             [**2143-7-30**]  02:51 PM
                             [**2143-7-30**]  03:13 PM
                             [**2143-7-30**]  11:14 PM
                             [**2143-7-30**]  11:57 PM
                             [**2143-7-31**]  05:03 AM
                             [**2143-7-31**]  05:08 AM
                             [**2143-7-31**]  11:02 AM
                             [**2143-7-31**]  05:14 PM
                             [**2143-7-31**]  05:25 PM
                             [**2143-8-1**]  04:44 AM
   WBC
   12.7
   9.8
   Hct
   37.3
   32.2
   Plt
   188
   178
   Cr
   1.2
   1.3
   1.4
   1.6
   1.8
   TCO2
   27
   26
   26
   26
   26
   Glucose
   [**Telephone/Fax (3) 9725**]03
   114
   Other labs: PT / PTT / INR:20.1/39.1/1.9, CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:2.0 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 INEFFECTIVE COPING
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 .H/O THROMBOCYTOPENIA, HEPARIN-INDUCED (HIT, HITT)
 PLEURAL EFFUSION, ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   .
   [**Age over 90 323**] yo woman with hx of HIT, ESRD on HD, s/p b/l AKA presents with
   hypoxia, hypotension and infiltrate and effusion on CXR.
   .
   # Septic shock: Patient presented tachycardic, febrile and hypotensive
   requiring levaphed in ED. Likely pulm source given LLL infiltrate
   although largely unchanged from 4 days prior. Other possible infectious
   etiologies include meningitis, urosepsis, GI source.  Now afebrile, but
   still hypotensive on levophed.
   - fem line in place, unsuccessful attempt to place L.IJ yesterday.
   - Will attempt to wean off levophed today, accepting MaP 55, SBP ~80s.
   - challenged with fluid boluses recently  with no effect on clinical
   status/pressor requirement.
   - continue Vanc/cefepime, day 5
   - blood, urine, sputum cx; no growth to date, viral swab for flus
   negative
   - stool for C diff negative.
   -attempt to wean sedation and change to PSV
   -IR to attempt L.sided PICC today.
   -[**Last Name (un) 45**] stim today.
   .
   # Pneumonia: LLL infiltrate seen on CXR and bilateral plerual effusion
   seen on lung cuts of CT abd.  Was on treatment with Levofloxacin since
   [**7-23**].
   - continue vanc/cefepime as above
   - no culture data to date
   - chest PT
   - O2 to maintain sats > 93%
   - DFA for flu negative
   .
   #heart failure-as evidenced on yesterday
s echo. Severe AS and
   biventricular failure. EF ~20%. Could be secondary to infection vs.
   cardiac process. However, renal and pt
s son report that this echo
   findings are not new and were seen a few months ago at [**Hospital1 **].
   -consider change in pressor to dopamine if clinical status appears
   consistent with cardiogenic shock.
   -cardiology consult-suggested digoxin after extubation.
   .
   # Respiratory Failure
 secondary to PNA, now intubated.
    - has been doing well on AC, can consider sedation trial and possible
   wean to PS today
   .
   # Tachycardia/afib
 patient atlernating between sinus tach around 100
   and afib with rates around 110 to 120s.  Rate is somewhat repsonsive to
   fluids.  Patient has been on metoprolol at home, but being held in
   setting of hypotension.  Although can continue fluids as needed, can
   possibly consider tighter rate control with hopes that BP improves.
   - echo as above. INR supratherapeutic. Will consider digoxin.
   .
   # Elevated INR
 INR to 10.8 peak in setting of coumadin and antibiotic
   therapy
   - trend INR, coming down
   - no evidence of bleeding clinically, will trend Hct
   - will start aggatroban today.
   - FFP yesterday to resite line and place OGT.
   .
   #anemia-pt with slight HCT drop this am. Likely secondary to blood loss
   during yesterday
s procedure/line placement.
   -trend HCT
   -active T+S
   -guaiac stools.
   .
   # HIT: Diagnosed in [**12/2141**] and complicated by thrombus in b/l lower
   extrem requiring amputations. PTT initially very elevated but nl on
   repeat; may have been spurious value.
   - NO HEPARIN PRODUCTS
   - Hold coumadin for now given supratherapeutic level
 see above for
   discusiion
   - trend coags
   -start argatroban today.
   .
   # ESRD on HD: Currently lytes WNL and does not appear to have increased
   pulm edema, stable on trach settings.
   - f/u renal recs, has started on CVVH, stopped overnight because Ca
   increasing and ionized Ca decreasing, with hypomag and
   hypophosphetemia; considering citrate toxicity as a cause
   - renal following along, Dr. [**Last Name (STitle) 1948**]
   - continue to monitor electrolytes.
   -will d/w renal re: plans for CVVH or HD
   .
   # L Hand swelling: noticed overnight with very white fingers on L hand,
   now more normal, R hand still more swollen
   - RUE US to rule out clot around HD cath, no clot.
   .
   # CAD: Patient had NSTEMI in [**2142**].
   - continue ASA
   -will likely need optimization.
   .
   # Hypothyroid: Last TSH of 4.2 in 4/[**2143**].
   - continue levothyroxine, change to IV as NPO
   .
   .
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-7-31**] 06:38 PM 15 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-7-28**] 01:50 AM
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   Prophylaxis:
   DVT: argatroban
   Stress ulcer:PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-08-01 09:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   digoxin started per Cards recs. FFP given yest- OGT placed but unable
   to place a L IJ CVC. Tolerated PSV but changed back to ACV for sedation
   related to line attempt.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Vancomycin - [**2143-7-30**] 12:25 PM
   Cefipime - [**2143-8-1**] 08:37 AM
   Infusions:
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2143-7-31**] 04:32 PM
   Midazolam (Versed) - [**2143-7-31**] 04:33 PM
   Pantoprazole (Protonix) - [**2143-8-1**] 04:00 AM
   Other medications:
   Pantoprazole, Lipitor, Synthroid, Peridex, cefepime, vanco, Tucks [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-1**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 103 (97 - 135) bpm
   BP: 94/55(71) {65/40(50) - 108/62(80)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.9 kg (admission): 53.2 kg
   Height: 61 Inch
             Total In:
                                                                  2,413 mL
                                                                    574 mL
   PO:
             TF:
                                                                     81 mL
                                                                    143 mL
   IVF:
                                                                  1,119 mL
                                                                    332 mL
   Blood products:
                                                                  1,183 mL
   Total out:
                                                                    750 mL
                                                                     50 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    750 mL
                                                                     50 mL
   Balance:
                                                                  1,663 mL
                                                                    524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 286 (247 - 299) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 34 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.41/40/193/23/1
   Ve: 4.8 L/min
   PaO2 / FiO2: 483
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   178 K/uL
   114 mg/dL
   1.8 mg/dL
   23 mEq/L
   3.1 mEq/L
   10 mg/dL
   104 mEq/L
   137 mEq/L
   32.2 %
   9.8 K/uL
        [image002.jpg]
                             [**2143-7-30**]  02:51 PM
                             [**2143-7-30**]  03:13 PM
                             [**2143-7-30**]  11:14 PM
                             [**2143-7-30**]  11:57 PM
                             [**2143-7-31**]  05:03 AM
                             [**2143-7-31**]  05:08 AM
                             [**2143-7-31**]  11:02 AM
                             [**2143-7-31**]  05:14 PM
                             [**2143-7-31**]  05:25 PM
                             [**2143-8-1**]  04:44 AM
   WBC
   12.7
   9.8
   Hct
   37.3
   32.2
   Plt
   188
   178
   Cr
   1.2
   1.3
   1.4
   1.6
   1.8
   TCO2
   27
   26
   26
   26
   26
   Glucose
   [**Telephone/Fax (3) 9725**]03
   114
   Other labs: PT / PTT / INR:20.1/39.1/1.9, CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0
   %, Mono:3.0 %, Eos:2.0 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.3 mg/dL
   Fluid analysis / Other labs: AM [**Last Name (un) 45**]- 12.9
   Imaging: [**7-31**] Echo- severe AS, biV failure, EF 20s
   [**8-1**] CXR- R basilar infiltrate vs atelectasis, persistent L sided
   effusion + infiltrate
   Microbiology: all neg or pending
   Assessment and Plan
   [**Age over 90 323**] yo female with ESRD on HD, atrial fibrillation, CAD admitted with
   hypotension attributed to PNA/sepsis. She has been treated with broad
   spectrum abx and pressors for 4 days with no fevers, and no recovery of
   infectious organisms from micro cultures. Despite abx coverage, there
   has been no meaningful change in level of pressor requirements.
   1. Shock: intially felt to be related to sepsis but w/ echo showing
   severe AS and BiV failure making cardiogenic contribution likely. Also
   considering adrenal insuff.
   -goal MAP 55-60
   -Cosyntropin stim test today
   -attempt to place neck CVC unsuccessful, unable to transduce CVP/
   central venous O2 sat --> today will attempt IR, double-lumen PICC
   -ID mgmt as below
   -CV mgmt as below
   2. Ao stenosis, BiV failure: would benefit from CVP assessment, central
   sat assessment. Already hypotensive so afterload reduction not an
   option
   -digoxin per CV svce
   3. Acute respiratory failure: repeat PSV trial today on lightened
   sedation
   4. Anemia: downtrending Hct
   -will follow serially
   5. Atrial fibrillation- rate relatively controlled
   6. HIT/ Elevated INR- now subtherapeutic INR
   -in the context of HIT would start argatroban gtt, can stop for
   procedure
   -holding coumadin for now
   7. ESRD: Renal team following; CVVH held due to concerns for citrate
   toxicity.They will reassess need for HD vs CVVH
   8. Social: anticipate need to set up family meeting later this week to
   discuss pt
s hospital course and further goals of care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-1**] 07:58 AM 15 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2143-7-28**] 01:50 AM
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, Argatroban gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I was present with the MICU housestaff team for the key portions of
   services provided, and independently examined the patient. I agree with
   the history, physical, assessment and plan as outlined by Dr.
   [**Last Name (STitle) 9152**] and would add:
   [**Age over 90 323**] yo female with CAD, ESRD on HD, PVD, and hx of HIT admitted with
   hypotension in the context of presumed PNA/sepsis, course also notable
   for ongoing hypotension requiring pressors, and acute respiratory
   failure. Seen by cardiology consult team with recommendations for
   digoxin to reduce ventricular rate. Aortic stenosis was a low-flow
   phenomenon secondary to depressed LVef/extensive CAD, which was not
   felt to be reversible as she would not tolerate revascularization/CABG.
   Prognosis from low flow aortic stenosis was noted to be poor.
   Her current problems include:
   *Acute respiratory failure from PNA and volume overload (ESRD +poor
   cardiac function)
   *hypotension, contributions from sepsis (presumably resolving) and
   cardiac. Pt
s BP
s also run low at home chronically. Need to evaluate
   adrenals
   *Hx of HIT, INR
s now subtherapeutic
   *ESRD
   Our goal is to optimize her resp status in hopes of getting her off the
   ventilator, but poor cardiac status, poor nutrition, weakness and ESRD
   will make this difficult.
   Plans:
   1.       Accept lower MAP goal given pt
s baseline
   2.       Pressors rather than fluid resuscitation to maintain goal MAP
   3.       Enteral feeds started
   4.       Wean sedation
   5.       SBT
s as tolerated (currently becomes apneic)
   6.       Fluid removal as per Dr. [**Last Name (STitle) 1948**] (renal)
   7.       Move to possible extubation in the next 2-3 days if
   appropriate progress made. Her son has been extensively involved in her
   care and wishes to be present at extubation
   Family conference held this afternoon with MICU team (Drs. [**Last Name (STitle) 9152**]
   and [**Name5 (PTitle) 1162**]), SW, son and daughter to discuss her guarded outlook and
   immediate plans. All agreed that the goal was to get her well enough
   such that she could return home to the care of her family. They
   recognize that with her multiple medical conditions, this may not be
   possible, in which case we will  need to re-discuss her long term
   wishes.
   Input from cardiology and renal appreciated.
   Pt is critically ill. Total time spent on pt: 70 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2143-8-1**] 16:13 ------

2143-08-02 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - fam meeting yesterday, continue current aggressive care
   - argatroban started for INR 1.9
   - stopped sevelemer
   - started low dose digoxin
   - difficult to wean from AC, failed PS overnight
   - weaned levo to 0.03 over the course of day, MAP goal >55
   - evaluated for bedside PICC, will try to IR guided tomorrow
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Vancomycin - [**2143-7-30**] 12:25 PM
   Cefipime - [**2143-8-1**] 08:37 AM
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-2**] 05:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to access.
   Flowsheet Data as of  [**2143-8-2**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 99 (89 - 123) bpm
   BP: 88/50(66) {81/44(60) - 96/56(71)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.9 kg (admission): 53.2 kg
   Height: 61 Inch
    CVP: 12 (11 - 23)mmHg
   Total In:
                                                                  1,264 mL
                                                                    320 mL
   PO:
   TF:
                                                                    497 mL
                                                                    193 mL
   IVF:
                                                                    567 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    100 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    450 mL
                                                                    100 mL
   Balance:
                                                                    814 mL
                                                                    220 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 286 (286 - 286) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 25 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 6.1 L/min
   Physical Examination
   General: intubated, sedated, off CVVH
   HEENT: Sclera anicteric, MMM,+ETT
   Neck: supple, JVP flat, no LAD
   Lungs: bibasilar crackles.
   CV: Irregularly irregular, [**1-15**] murmur at LSB. No rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Upper extremities without palpable pulses, R IJ tunnelled dialysis
   catheter, L femoral line, L arterial line. Bilateral lower extremity
   AKA., R hand more swollen than L, L hand with ecchymosis and skin tear
   with bloody drainage
   Labs / Radiology
   215 K/uL
   9.9 g/dL
   157 mg/dL
   2.6 mg/dL
   23 mEq/L
   4.0 mEq/L
   15 mg/dL
   102 mEq/L
   136 mEq/L
   33.5 %
   14.9 K/uL
        [image002.jpg]
                             [**2143-7-30**]  11:14 PM
                             [**2143-7-30**]  11:57 PM
                             [**2143-7-31**]  05:03 AM
                             [**2143-7-31**]  05:08 AM
                             [**2143-7-31**]  11:02 AM
                             [**2143-7-31**]  05:14 PM
                             [**2143-7-31**]  05:25 PM
                             [**2143-8-1**]  04:44 AM
                             [**2143-8-1**]  05:14 PM
                             [**2143-8-2**]  05:04 AM
   WBC
   12.7
   9.8
   9.9
   14.9
   Hct
   37.3
   32.2
   31.3
   33.5
   Plt
   188
   178
   158
   215
   Cr
   1.3
   1.4
   1.6
   1.8
   2.0
   2.6
   TCO2
   26
   26
   26
   26
   Glucose
   [**Telephone/Fax (3) 9753**]14
   152
   157
   Other labs: PT / PTT / INR:27.7/69.5/2.7, CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:93.7 %, Band:0.0 %, Lymph:3.7
   %, Mono:2.4 %, Eos:0.1 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 INEFFECTIVE COPING
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 .H/O THROMBOCYTOPENIA, HEPARIN-INDUCED (HIT, HITT)
 PLEURAL EFFUSION, ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   .
   [**Age over 90 323**] yo woman with hx of HIT, ESRD on HD, s/p b/l AKA presents with
   hypoxia, hypotension and infiltrate and effusion on CXR.
   .
   # Septic shock: Patient presented tachycardic, febrile and hypotensive
   requiring levaphed in ED. Likely pulm source given LLL infiltrate
   although largely unchanged from 4 days prior. Other possible infectious
   etiologies include meningitis, urosepsis, GI source.  Now afebrile, but
   still hypotensive on levophed. Likely secondary to VAP.
   - fem line in place, unsuccessful attempt to place L.IJ yesterday.
   - Will attempt to wean off levophed yesterday, failed, accepting MaP
   55, SBP ~80s.
   - challenged with fluid boluses recently  with no effect on clinical
   status/pressor requirement.
   - continue Vanc/cefepime, day 6 of 8
   - blood, urine, sputum cx; no growth to date, viral swab for flus
   negative
   - stool for C diff negative.
   -attempt to wean sedation and change to PSV
   -IR to attempt L.sided PICC today.
   -[**Last Name (un) 45**] stim appropriate.
   .
   # Pneumonia: LLL infiltrate seen on CXR and bilateral plerual effusion
   seen on lung cuts of CT abd.  Was on treatment with Levofloxacin since
   [**7-23**].
   - continue vanc/cefepime as above day [**6-17**]
   - no culture data to date
   - chest PT
   - O2 to maintain sats > 93%
   - DFA for flu negative
   .
   # Respiratory Failure
 secondary to PNA, now intubated.
    - had been doing well on AC, can consider sedation trial and possible
   wean to PS today
   .
   #leukocytosis-Pt at risk for multiple areas sites of infection. Will
   send urine via straight cath for cx today. Line sites c/d/i. Send stool
   for c.diff. Check vanco level as dosing by level. Continue to monitor
   and will reculture and/or broaded abx for signs of infection.
   .
   #heart failure-as evidenced on yesterday
s echo. Severe AS and
   biventricular failure. EF ~20%. Could be secondary to infection vs.
   cardiac process. However, renal and pt
s son report that this echo
   findings are not new and were seen a few months ago at [**Hospital1 **].
   -consider change in pressor to dopamine if clinical status appears
   consistent with cardiogenic shock.
   -cardiology consult-suggested digoxin for improved atrial kick. Will
   ask cardiology today re: thoughts on efficacy of dig in this situation.
   -
   . # Tachycardia/afib
 patient atlernating between sinus tach around
   100 and afib with rates around 110 to 120s.  Rate is somewhat
   repsonsive to fluids.  Patient has been on metoprolol at home, but
   being held in setting of hypotension.  Although can continue fluids as
   needed, can possibly consider tighter rate control with hopes that BP
   improves.
   - echo as above. INR supratherapeutic. Will consider digoxin.
   ..
   # Elevated INR
 INR to 10.8 peak in setting of coumadin and antibiotic
   therapy
   - trend INR, coming down
   - no evidence of bleeding clinically, will trend Hct
   - started aggatroban
   - FFP yesterday to resite line and place OGT.
   .
   # HIT: Diagnosed in [**12/2141**] and complicated by thrombus in b/l lower
   extrem requiring amputations. PTT initially very elevated but nl on
   repeat; may have been spurious value.
   - NO HEPARIN PRODUCTS
   - Hold coumadin for now given supratherapeutic level
 see above for
   discusiion
   - trend coags
   -start argatroban today.
   .
   # ESRD on HD: Currently lytes WNL and does not appear to have increased
   pulm edema, stable on trach settings.
   - f/u renal recs, has started on CVVH, stopped overnight because Ca
   increasing and ionized Ca decreasing, with hypomag and
   hypophosphetemia; considering citrate toxicity as a cause
   - renal following along, Dr. [**Last Name (STitle) 1948**]
   - continue to monitor electrolytes.
   -will d/w renal re: plans for CVVH or HD, will ask renal to do CVVH
   today.
   .
   #anemia-pt with slight HCT drop this am. Likely secondary to blood loss
   during yesterday
s procedure/line placement.
   -trend HCT
   -active T+S
   -guaiac stools.
   .
   # L Hand swelling: noticed overnight with very white fingers on L hand,
   now more normal, R hand still more swollen
   - RUE US to rule out clot around HD cath, no clot.
   .
   # CAD: Patient had NSTEMI in [**2142**].
   - continue ASA
   -will likely need optimization.
   .
   # Hypothyroid: Last TSH of 4.2 in 4/[**2143**].
   - continue levothyroxine, change to IV as NPO
   .
   .
   ICU Care
   Nutrition: tube feeds.
   Nutren 2.0 (Full) - [**2143-8-2**] 12:52 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-7-28**] 01:50 AM
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   Prophylaxis:
   DVT: agatroban
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: with son
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2143-08-02 09:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   tolerated PSV for only a few hours this AM- became tachypneic and
   swithced back to ACV
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Vancomycin - [**2143-7-30**] 12:25 PM
   Cefipime - [**2143-8-2**] 08:00 AM
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-2**] 05:21 AM
   Other medications:
   Lipitor, Synthroid, Peridex, argatroban gtt, cefepime, vanco, Levophed
   gtt
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-2**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 100 (89 - 123) bpm
   BP: 86/47(63) {81/44(60) - 96/56(71)} mmHg
   RR: 27 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.9 kg (admission): 53.2 kg
   Height: 61 Inch
   CVP: 14 (11 - 23)mmHg
   Total In:
                                                                  1,264 mL
                                                                    475 mL
   PO:
   TF:
                                                                    497 mL
                                                                    226 mL
   IVF:
                                                                    567 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    450 mL
                                                                    200 mL
   Balance:
                                                                    814 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 286 (286 - 286) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 5.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: s/p bilat AKA
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   215 K/uL
   157 mg/dL
   2.6 mg/dL
   23 mEq/L
   4.0 mEq/L
   15 mg/dL
   102 mEq/L
   136 mEq/L
   33.5 %
   14.9 K/uL
        [image002.jpg]
                             [**2143-7-30**]  11:14 PM
                             [**2143-7-30**]  11:57 PM
                             [**2143-7-31**]  05:03 AM
                             [**2143-7-31**]  05:08 AM
                             [**2143-7-31**]  11:02 AM
                             [**2143-7-31**]  05:14 PM
                             [**2143-7-31**]  05:25 PM
                             [**2143-8-1**]  04:44 AM
                             [**2143-8-1**]  05:14 PM
                             [**2143-8-2**]  05:04 AM
   WBC
   12.7
   9.8
   9.9
   14.9
   Hct
   37.3
   32.2
   31.3
   33.5
   Plt
   188
   178
   158
   215
   Cr
   1.3
   1.4
   1.6
   1.8
   2.0
   2.6
   TCO2
   26
   26
   26
   26
   Glucose
   [**Telephone/Fax (3) 9753**]14
   152
   157
   Other labs: PT / PTT / INR:27.7/69.5/2.7, CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:93.7 %, Band:0.0 %, Lymph:3.7
   %, Mono:2.4 %, Eos:0.1 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.8 mg/dL
   Fluid analysis / Other labs: cosyn stim test- +21
   Imaging: [**8-2**] CXR- mproved RLL atelectasis, persistent LLL infiltrate
   plus effusion
   Microbiology: all cx neg or pending
   Assessment and Plan
   [**Age over 90 323**] yo female with ESRD on HD, atrial fibrillation, CAD admitted with
   hypotension attributed to PNA/sepsis. She has been treated with broad
   spectrum abx and pressors for 4 days with no fevers, and no recovery of
   infectious organisms from micro cultures.
   1. Shock: intially felt to be related to sepsis but w/ echo showing
   severe AS and BiV failure making cardiogenic contribution likely.
   -goal MAP 55-60, wean levophed as tolerated
   -ID mgmt as below
   -CV mgmt as below
   2. Ao stenosis, BiV failure: migth benefit from some fluid removal.
   Already hypotensive so afterload reduction not an option
   -touch base w/ Renal re: resuming CVVH
   3. Acute respiratory failure: failed PSV due to rapid shallow breathing
   today, empiric course for VAP
   -re-eval for PSV trial after poss CVVH re-initiated
   -day 6 of vanco + cefepime, total 8d planned
   4. Atrial fibrillation- rate relatively controlled
   5. HIT/ Elevated INR- now subtherapeutic INR
   -in the context of HIT would start argatroban gtt, can stop for
   procedure
   -holding coumadin for now
   6. ESRD: Renal team following
   -would ask Renal team to re-eval for CVVH, without citrate as this led
   to lyte imbalances before
   7. Leukocytosis: panculture, otherwise vigilent monitoring for infxn
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-2**] 08:51 AM 25 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2143-7-28**] 01:50 AM
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments: family mtg yest pm where
   overall poor prognosis was discussed. family noted that pt would not
   want to be in long-term care facility
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and independently examined the patient, and was physically
   present with the ICU housestaff team for the relevant portions of the
   service provided.  I agree with Dr. [**Last Name (STitle) 9152**]
s note above,
   including assessment and plan, and would add: [**Age over 90 323**] yo female with afib,
   ESRD on HD, hx HIT admitted with PNA/sepsis and respiratory failure.
   Echo reveals low flow aortic stenosis and severe systolic CHF. Her
   major issues include:
   1. Acute respiratory failure: needs further fluid removal and better
   mentation. Slightly more alert this morning, remains ventilator
   dependent with only transient tolerance of PSV. Will continue to wean
   ventilator as able, but progress will on how quickly we can remove
   fluid
   2. Hypotension/shock, septic/cardiogenic: on levophed to maintain
   MAP>55. Decreased positive pressure ventilation may also improve
   hemodynamics once appropriate for extubation.
   3. Severe aortic stenosis/afib: digoxin load to reduce ventricular rate
   4. ESRD: CVVH restarted
   5. HIT: on argatroban
   Family updated.
   Pt is critically ill. Total time spent: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2143-8-2**] 19:46 ------

2143-08-03 08:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2143-8-2**] 10:00 AM
 PICC LINE - START [**2143-8-2**] 11:00 AM
   non-heparin PICC for hx HIT.
 URINE CULTURE - At [**2143-8-2**] 11:30 AM
   straigt cath for 30cc.  Sent for UA and cx.
 BLOOD CULTURED - At [**2143-8-2**] 06:00 PM
   from A-line
 BLOOD CULTURED - At [**2143-8-2**] 06:30 PM
   from L fem TLC.
 MULTI LUMEN - STOP [**2143-8-3**] 04:23 AM
   .
   - patient more awake and breathing over the vent; started on bolus
   sedation
   - started on CVVH per renal recommendations
   - WBC trending up; no clear source as yet
   - PICC line placed and right femoral line removed
   - patient started on Dig at 1/4 of the loading dose
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Cefipime - [**2143-8-2**] 08:00 AM
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Norepinephrine - 0.08 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2143-8-3**] 06:00 AM
   Fentanyl - [**2143-8-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2143-8-3**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.3
C (95.6
   HR: 83 (83 - 116) bpm
   BP: 90/46(64) {75/43(56) - 112/64(84)} mmHg
   RR: 15 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 53.2 kg
   Height: 61 Inch
    CVP: 6 (6 - 9)mmHg
   Total In:
                                                                  1,630 mL
                                                                  1,081 mL
   PO:
   TF:
                                                                    641 mL
                                                                    283 mL
   IVF:
                                                                    990 mL
                                                                    798 mL
   Blood products:
   Total out:
                                                                  1,609 mL
                                                                  1,526 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
                                                                    550 mL
                                                                    300 mL
   Balance:
                                                                     21 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 325
   PIP: 32 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.43/30/192/20/-2
   Ve: 7 L/min
   PaO2 / FiO2: 480
   Physical Examination
   General: intubated, sedated, off CVVH
   HEENT: Sclera anicteric, MMM,+ETT
   Neck: supple, JVP flat, no LAD
   Lungs: bibasilar crackles.
   CV: Irregularly irregular, [**1-15**] murmur at LSB. No rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Upper extremities without palpable pulses, R IJ tunnelled dialysis
   catheter, L femoral line, L arterial line. Bilateral lower extremity
   AKA., R hand more swollen than L, L hand with ecchymosis and skin tear
   with bloody drainage
   Labs / Radiology
   171 K/uL
   9.7 g/dL
   161 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.1 mEq/L
   14 mg/dL
   108 mEq/L
   136 mEq/L
   34.7 %
   20.9 K/uL
        [image002.jpg]
                             [**2143-7-31**]  05:14 PM
                             [**2143-7-31**]  05:25 PM
                             [**2143-8-1**]  04:44 AM
                             [**2143-8-1**]  05:14 PM
                             [**2143-8-2**]  05:04 AM
                             [**2143-8-2**]  06:05 PM
                             [**2143-8-2**]  06:26 PM
                             [**2143-8-3**]  12:26 AM
                             [**2143-8-3**]  12:36 AM
                             [**2143-8-3**]  06:19 AM
   WBC
   9.8
   9.9
   14.9
   20.9
   Hct
   32.2
   31.3
   33.5
   34.7
   Plt
   178
   158
   215
   171
   Cr
   1.6
   1.8
   2.0
   2.6
   2.0
   1.6
   TCO2
   26
   23
   22
   21
   Glucose
   103
   114
   152
   157
   152
   161
   Other labs: PT / PTT / INR:32.9/79.4/3.3, CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:93.7 %, Band:0.0 %, Lymph:3.7
   %, Mono:2.4 %, Eos:0.1 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.6 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 INEFFECTIVE COPING
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 .H/O THROMBOCYTOPENIA, HEPARIN-INDUCED (HIT, HITT)
 PLEURAL EFFUSION, ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   .
   [**Age over 90 323**] yo woman with hx of HIT, ESRD on HD, s/p b/l AKA presents with
   hypoxia, hypotension and infiltrate and effusion on CXR.
   .
   # Septic shock: Patient presented tachycardic, febrile and hypotensive
   requiring levaphed in ED. Likely pulm source given LLL infiltrate
   although largely unchanged from 4 days prior. Other possible infectious
   etiologies include meningitis, urosepsis, GI source.  Now afebrile, but
   still hypotensive on levophed. Likely secondary to VAP.
   - fem line in place, unsuccessful attempt to place L.IJ yesterday.
   - Will attempt to wean off levophed yesterday, failed, accepting MaP
   55, SBP ~80s.
   - challenged with fluid boluses recently  with no effect on clinical
   status/pressor requirement.
   - continue Vanc/cefepime, day 6 of 8
   - blood, urine, sputum cx; no growth to date, viral swab for flus
   negative
   - stool for C diff negative.
   -attempt to wean sedation and change to PSV
   -IR to attempt L.sided PICC today.
   -[**Last Name (un) 45**] stim appropriate.
   .
   # Pneumonia: LLL infiltrate seen on CXR and bilateral plerual effusion
   seen on lung cuts of CT abd.  Was on treatment with Levofloxacin since
   [**7-23**].
   - continue vanc/cefepime as above day [**6-17**]
   - no culture data to date
   - chest PT
   - O2 to maintain sats > 93%
   - DFA for flu negative
   .
   # Respiratory Failure
 secondary to PNA, now intubated.
    - had been doing well on AC, can consider sedation trial and possible
   wean to PS today
   .
   #leukocytosis-Pt at risk for multiple areas sites of infection. Will
   send urine via straight cath for cx today. Line sites c/d/i. Send stool
   for c.diff. Check vanco level as dosing by level. Continue to monitor
   and will reculture and/or broaded abx for signs of infection.
   .
   #heart failure-as evidenced on yesterday
s echo. Severe AS and
   biventricular failure. EF ~20%. Could be secondary to infection vs.
   cardiac process. However, renal and pt
s son report that this echo
   findings are not new and were seen a few months ago at [**Hospital1 **].
   -consider change in pressor to dopamine if clinical status appears
   consistent with cardiogenic shock.
   -cardiology consult-suggested digoxin for improved atrial kick. Will
   ask cardiology today re: thoughts on efficacy of dig in this situation.
   -
   . # Tachycardia/afib
 patient atlernating between sinus tach around
   100 and afib with rates around 110 to 120s.  Rate is somewhat
   repsonsive to fluids.  Patient has been on metoprolol at home, but
   being held in setting of hypotension.  Although can continue fluids as
   needed, can possibly consider tighter rate control with hopes that BP
   improves.
   - echo as above. INR supratherapeutic. Will consider digoxin.
   ..
   # Elevated INR
 INR to 10.8 peak in setting of coumadin and antibiotic
   therapy
   - trend INR, coming down
   - no evidence of bleeding clinically, will trend Hct
   - started aggatroban
   - FFP yesterday to resite line and place OGT.
   .
   # HIT: Diagnosed in [**12/2141**] and complicated by thrombus in b/l lower
   extrem requiring amputations. PTT initially very elevated but nl on
   repeat; may have been spurious value.
   - NO HEPARIN PRODUCTS
   - Hold coumadin for now given supratherapeutic level
 see above for
   discusiion
   - trend coags
   -start argatroban today.
   .
   # ESRD on HD: Currently lytes WNL and does not appear to have increased
   pulm edema, stable on trach settings.
   - f/u renal recs, has started on CVVH, stopped overnight because Ca
   increasing and ionized Ca decreasing, with hypomag and
   hypophosphetemia; considering citrate toxicity as a cause
   - renal following along, Dr. [**Last Name (STitle) 1948**]
   - continue to monitor electrolytes.
   -will d/w renal re: plans for CVVH or HD, will ask renal to do CVVH
   today.
   .
   #anemia-pt with slight HCT drop this am. Likely secondary to blood loss
   during yesterday
s procedure/line placement.
   -trend HCT
   -active T+S
   -guaiac stools.
   .
   # L Hand swelling: noticed overnight with very white fingers on L hand,
   now more normal, R hand still more swollen
   - RUE US to rule out clot around HD cath, no clot.
   .
   # CAD: Patient had NSTEMI in [**2142**].
   - continue ASA
   -will likely need optimization.
   .
   # Hypothyroid: Last TSH of 4.2 in 4/[**2143**].
   - continue levothyroxine, change to IV as NPO
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-3**] 03:57 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   PICC Line - [**2143-8-2**] 11:00 AM
   Prophylaxis:
   DVT: agatroban
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-08-03 08:28:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2143-8-2**] 10:00 AM
 PICC LINE - START [**2143-8-2**] 11:00 AM
   non-heparin PICC for hx HIT.
 URINE CULTURE - At [**2143-8-2**] 11:30 AM
   straight cath for 30cc.  Sent for UA and cx.
 BLOOD CULTURED - At [**2143-8-2**] 06:00 PM
   from A-line
 BLOOD CULTURED - At [**2143-8-2**] 06:30 PM
   from L fem TLC.
 MULTI LUMEN - STOP [**2143-8-3**] 04:23 AM
   More awake, switched to bolus sedation. CVVH started again for
   hypervolemia
   Started on digoxin
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Cefipime - [**2143-8-2**] 08:00 AM
   Vancomycin by level
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Norepinephrine - 0.06 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2143-8-3**] 06:00 AM
   Fentanyl - [**2143-8-3**] 06:00 AM
   Other medications:
   Lipitor
   Protonix
   Synthroid
   Chlorhex
   Digoxin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-3**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.3
C (95.6
   HR: 83 (83 - 116) bpm
   BP: 90/46(64) {75/43(56) - 112/64(84)} mmHg
   RR: 15 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 53.2 kg
   Height: 61 Inch
   CVP: 6 (6 - 9)mmHg
   Total In:
                                                                  1,630 mL
                                                                  1,116 mL
   PO:
   TF:
                                                                    641 mL
                                                                    292 mL
   IVF:
                                                                    990 mL
                                                                    824 mL
   Blood products:
   Total out:
                                                                  1,609 mL
                                                                  1,672 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
                                                                    550 mL
                                                                    300 mL
   Balance:
                                                                     21 mL
                                                                   -556 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 325
   PIP: 32 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.43/30/192/18/-2
   Ve: 7 L/min
   PaO2 / FiO2: 480
   Physical Examination
   Labs / Radiology
   9.6 g/dL
   146 K/uL
   133 mg/dL
   1.3 mg/dL
   18 mEq/L
   4.5 mEq/L
   11 mg/dL
   106 mEq/L
   135 mEq/L
   34.2 %
   13.2 K/uL
        [image002.jpg]
                             [**2143-7-31**]  05:25 PM
                             [**2143-8-1**]  04:44 AM
                             [**2143-8-1**]  05:14 PM
                             [**2143-8-2**]  05:04 AM
                             [**2143-8-2**]  06:05 PM
                             [**2143-8-2**]  06:26 PM
                             [**2143-8-3**]  12:26 AM
                             [**2143-8-3**]  12:36 AM
                             [**2143-8-3**]  06:08 AM
                             [**2143-8-3**]  06:19 AM
   WBC
   9.8
   9.9
   14.9
   20.9
   13.2
   Hct
   32.2
   31.3
   33.5
   34.7
   34.2
   Plt
   178
   158
   215
   171
   146
   Cr
   1.8
   2.0
   2.6
   2.0
   1.6
   1.3
   TCO2
   26
   23
   22
   21
   Glucose
   114
   152
   157
   152
   161
   133
   Other labs: PT / PTT / INR:32.9/79.4/3.3, CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:86.6 %, Band:0.0 %, Lymph:8.1
   %, Mono:3.9 %, Eos:1.2 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.5 mg/dL
   CXR
 obscured left hemidiaphragm, no interval change
   Assessment and Plan
   [**Age over 90 323**] yo female with ESRD on HD, atrial fibrillation, CAD admitted with
   hypotension attributed to PNA/sepsis. She has been treated with broad
   spectrum abx and pressors for 4 days with no fevers, and no recovery of
   infectious organisms from micro cultures.
   1. Shock: initially felt to be related to sepsis but w/ echo showing
   severe AS and BiV failure making cardiogenic contribution likely.
   Contributing to difficulty weaning pressors.
   -goal MAP 55-60, wean levophed as tolerated
   -ID mgmt as below
   -CV mgmt as below
   2. Ao stenosis, BiV failure: thought to be functional AS given normal
   aortic valve last year; might benefit from some fluid removal. Already
   hypotensive so afterload reduction not an option
   -CVVH resumed overnight
   3. Acute respiratory failure: failed PSV due to rapid shallow
   breathing, empiric course for VAP
   -re-eval for PSV trial now that CVVH restarted
   -day 7 of vanco + cefepime, total 8d planned
   4. Atrial fibrillation- much better controlled now with dig
   5. HIT/ Elevated INR- now subtherapeutic INR
   -in the context of HIT would start argatroban gtt
   -holding coumadin for now
   6. ESRD: Renal team following
   -would ask Renal team to re-eval for CVVH, without citrate as this led
   to lyte imbalances before
   7. Leukocytosis: dropped considerably after fem line pulled yesterday
   and pancultured yesterday, otherwise vigilant monitoring for infxn
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-3**] 03:57 AM 25 mL/hour
   Glycemic Control:  unnecessary for now
   Lines:
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   PICC Line - [**2143-8-2**] 11:00 AM
   Prophylaxis:
   DVT: argatroban gtt
   Stress ulcer:  ppi
   VAP: being treated, chlorex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 30 minutes

2143-08-04 08:24:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Continues on levophed
   And CVVH
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-3**] 09:39 AM
   Cefipime - [**2143-8-4**] 07:53 AM
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Norepinephrine - 0.08 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2143-8-4**] 08:13 AM
   Fentanyl - [**2143-8-4**] 08:13 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-4**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 110 (83 - 115) bpm
   BP: 92/47(64) {76/37(53) - 105/56(76)} mmHg
   RR: 23 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69 kg (admission): 53.2 kg
   Height: 61 Inch
             Total In:
                                                                  3,591 mL
                                                                  1,533 mL
   PO:
             TF:
                                                                    680 mL
                                                                    210 mL
   IVF:
                                                                  2,761 mL
                                                                  1,093 mL
   Blood products:
   Total out:
                                                                  5,889 mL
                                                                  2,251 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    700 mL
                                                                     50 mL
   Balance:
                                                                 -2,298 mL
                                                                   -718 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.42/35/194/20/0
   Ve: 3.7 L/min
   PaO2 / FiO2: 485
   Physical Examination
   NAD comfortable
   Labs / Radiology
   9.1 g/dL
   131 K/uL
   111 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.2 mEq/L
   7 mg/dL
   107 mEq/L
   134 mEq/L
   32.4 %
   12.9 K/uL
        [image002.jpg]
                             [**2143-8-3**]  06:19 AM
                             [**2143-8-3**]  11:27 AM
                             [**2143-8-3**]  12:14 PM
                             [**2143-8-3**]  05:36 PM
                             [**2143-8-3**]  06:00 PM
                             [**2143-8-4**]  12:29 AM
                             [**2143-8-4**]  12:39 AM
                             [**2143-8-4**]  04:42 AM
                             [**2143-8-4**]  05:50 AM
                             [**2143-8-4**]  06:02 AM
   WBC
   12.9
   Hct
   33.2
   32.4
   Plt
   131
   Cr
   1.2
   0.9
   0.7
   TCO2
   21
   21
   23
   25
   23
   23
   Glucose
   137
   111
   114
   111
   Other labs: PT / PTT / INR:27.3/70.7/2.7, CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:80.8 %, Band:0.0 %, Lymph:9.7
   %, Mono:7.5 %, Eos:1.8 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:1.2 mg/dL
   CXR
 no interval change, no acute cardiopulmonary process
   Assessment and Plan
   [**Age over 90 323**] yo female with ESRD on HD, atrial fibrillation, CAD admitted with
   hypotension attributed to PNA/sepsis. She has been treated with broad
   spectrum abx and pressors for 4 days with no fevers, and no recovery of
   infectious organisms from micro cultures.
   1. Shock: initially felt to be related to sepsis but w/ echo showing
   severe AS and BiV failure making cardiogenic contribution likely.
   Contributing to difficulty weaning pressors.
   -goal MAP 55-60, wean levophed as tolerated
   -ID mgmt as below
   -CV mgmt as below
   2. Ao stenosis, BiV failure: thought to be functional AS given normal
   aortic valve last year; might benefit from some fluid removal. 2L
   negative overnight via CVVH, but continues to be on levophed. Was dig
   loaded for atrial kick.
   -CVVH resumed overnight
   -check dig level tomorrow morning
   3. Acute respiratory failure: will attempt to wean to PS 15/5 today;
   bolus sedation only
 wean to extubate
   -re-eval for PSV trial now that CVVH restarted
   -day 8 of vanco + cefepime, total 8d planned
 d/c today
   4. Atrial fibrillation- much better controlled now with dig
   5. HIT/ Elevated INR- now subtherapeutic INR
   -in the context of HIT on argatroban gtt
   -holding coumadin for now
   6. ESRD: Renal team following
   -on CVVH now
   7. Leukocytosis: dropped considerably after fem line pulled yesterday
   and pancultured yesterday, otherwise vigilant monitoring for infxn
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-4**] 03:41 AM 25 mL/hour
   Glycemic Control:  none needed
   Lines:
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   PICC Line - [**2143-8-2**] 11:00 AM
   Prophylaxis:
   DVT: argatroban
   Stress ulcer: ppi
   VAP: refusing oral care
   Comments:
   Communication:  Updated pt
s son
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Pt is critically ill.
   Total time spent: 35 minutes

2143-08-04 08:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**8-3**]
   -HR better controlled
   -CVVH continued
   -last day of abx [**8-4**]
   -cxr with no acute change.
   24 Hour Events:
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-3**] 09:39 AM
   Cefipime - [**2143-8-4**] 07:53 AM
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Norepinephrine - 0.1 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2143-8-4**] 08:13 AM
   Fentanyl - [**2143-8-4**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-4**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 110 (83 - 115) bpm
   BP: 92/47(64) {76/37(53) - 105/56(76)} mmHg
   RR: 23 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 69 kg (admission): 53.2 kg
   Height: 61 Inch
             Total In:
                                                                  3,591 mL
                                                                  1,543 mL
   PO:
             TF:
                                                                    680 mL
                                                                    213 mL
   IVF:
                                                                  2,761 mL
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                  5,889 mL
                                                                  2,251 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    700 mL
                                                                     50 mL
   Balance:
                                                                 -2,298 mL
                                                                   -708 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.42/35/194/20/0
   Ve: 3.7 L/min
   PaO2 / FiO2: 485
   Physical Examination
   General: intubated, sedated, off CVVH
   HEENT: Sclera anicteric, MMM,+ETT
   Neck: supple, JVP flat, no LAD
   Lungs: bibasilar crackles.
   CV: Irregularly irregular, [**1-15**] murmur at LSB. No rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Upper extremities without palpable pulses, R IJ tunnelled dialysis
   catheter,  L arterial line. Bilateral lower extremity AKA., R hand more
   swollen than L, L hand with ecchymosis and skin tear with bloody
   drainage
   Labs / Radiology
   131 K/uL
   9.1 g/dL
   111 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.2 mEq/L
   7 mg/dL
   107 mEq/L
   134 mEq/L
   32.4 %
   12.9 K/uL
        [image002.jpg]
                             [**2143-8-3**]  06:19 AM
                             [**2143-8-3**]  11:27 AM
                             [**2143-8-3**]  12:14 PM
                             [**2143-8-3**]  05:36 PM
                             [**2143-8-3**]  06:00 PM
                             [**2143-8-4**]  12:29 AM
                             [**2143-8-4**]  12:39 AM
                             [**2143-8-4**]  04:42 AM
                             [**2143-8-4**]  05:50 AM
                             [**2143-8-4**]  06:02 AM
   WBC
   12.9
   Hct
   33.2
   32.4
   Plt
   131
   Cr
   1.2
   0.9
   0.7
   TCO2
   21
   21
   23
   25
   23
   23
   Glucose
   137
   111
   114
   111
   Other labs: PT / PTT / INR:27.3/70.7/2.7, CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:80.8 %, Band:0.0 %, Lymph:9.7
   %, Mono:7.5 %, Eos:1.8 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:1.2 mg/dL
   Assessment and Plan
   [**Age over 90 323**] yo woman with hx of HIT, ESRD on HD, s/p b/l AKA presents with
   hypoxia, hypotension and infiltrate and effusion on CXR.
   .
   # Septic shock: Patient presented tachycardic, febrile and hypotensive
   requiring levaphed in ED. Likely pulm source given LLL infiltrate
   although largely unchanged from 4 days prior. Other possible infectious
   etiologies include meningitis, urosepsis, GI source.  Now afebrile, but
   still hypotensive on levophed. Likely secondary to [**Age over 90 763**], as well as
   contribution of severely depressed cardiac function.
   - PICC
   - Will attempt to wean off levophed yesterday but with CVVH, increased
   to 0.1 gtt, accepting MaP 55, SBP ~80s.
   - continue Vanc/cefepime, day 8 of 8 for [**Last Name (LF) 763**], [**First Name3 (LF) 178**] stop today
   - blood, urine, sputum cx; no growth to date, viral swab for flus
   negative
   - stool for C diff negative negative.
   -attempt to wean sedation and change to PSV
   -[**Last Name (un) 45**] stim appropriate.
   .
   # respiratory failure-Pneumonia: LLL infiltrate seen on CXR and
   bilateral plerual effusion seen on lung cuts of CT abd.  Was on
   treatment with Levofloxacin since [**7-23**].
   - do intermittent PSV trials, lasts a few hours but then has rapid
   shallow breathing, should improve as more fluid is removed
   - continue vanc/cefepime as above day [**8-17**]
   - no culture data to date
   - chest PT/suctioning prn
   - O2 to maintain sats > 93%
   - DFA for flu negative
   .
   #leukocytosis-Pt at risk for multiple areas sites of infection. Sent
   urine via straight cath for cx. Line sites c/d/i. Sent stool for
   c.diff. Check vanco level as dosing by level. Continue to monitor and
   will reculture and/or broaded abx for signs of infection.
   - starting to trend down
   -femoral line removed7/24.
   .
   #heart failure/functional AS-as evidenced on recent echo. Severe AS
   and  biventricular failure. EF ~20%. Could be secondary to infection
   vs. cardiac process. However, renal and pt
s son report that this echo
   findings are not new and were seen a few months ago at [**Hospital1 **].
   -cardiology consult-suggested digoxin for improved atrial kick and
   contractility, started [**8-2**] with improvement in HR to 80s.
   - remained in afib with rates btw 80-110
   -
   . # Tachycardia/afib
 patient atlernating between sinus tach and
   afib.  Patient has been on metoprolol at home, but being held in
   setting of hypotension.
   - echo as above showing severely depressed EF.
   -anticoag with argatroban
   -started on dig with check level mon am.
   .
   # HIT: Diagnosed in [**12/2141**] and complicated by thrombus in b/l lower
   extrem requiring amputations. PTT initially very elevated but nl on
   repeat; may have been spurious value.
   - NO HEPARIN PRODUCTS
   - Hold coumadin for now given acute infectious setting.
   - trend coags
   -on argatroban
   .
   # ESRD on HD: Currently lytes WNL and does not appear to have increased
   pulm edema, stable on trach settings.
   - f/u renal recs, has started on CVVH, stopped earlier due to concern
   for citrate toxicity- Ca increasing and ionized Ca decreasing, with
   hypomag and hypophosphetemia
   - renal following along, Dr. [**Last Name (STitle) 1948**]
   - continue to monitor electrolytes.
   -undergoing CVVH, doing well will about 2 L removed yesterday
   - replace phos today
   .
   #anemia- stable, likely [**2-11**] chronic disease and blood loss from blood
   draws and procedure.
   -trend HCT
   -active T+S
   -guaiac stools
 is guiac positive.
   .
   # CAD: Patient had NSTEMI in [**2142**].
   - no ASA
   -will likely need optimization.
   .
   # Hypothyroid: Last TSH of 4.2 in 4/[**2143**].
   - continue levothyroxine, now on PO
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-4**] 03:41 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   PICC Line - [**2143-8-2**] 11:00 AM
   Prophylaxis:
   DVT: argatroban
   Stress ulcer: ppi
   [**Year (4 digits) 763**]:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2143-08-05 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated PSV for 2 h, then back on ACV for tachypnea
   Finished course of abx for HCAP
   Increasingly more tachycardic
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Cefipime - [**2143-8-4**] 07:53 AM
   Vancomycin - [**2143-8-4**] 08:40 AM
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Norepinephrine - 0.12 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-5**] 03:43 AM
   Fentanyl - [**2143-8-5**] 08:45 AM
   Midazolam (Versed) - [**2143-8-5**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-5**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 117 (99 - 119) bpm
   BP: 94/46(65) {73/39(53) - 99/51(70)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 62.5 kg (admission): 53.2 kg
   Height: 61 Inch
             Total In:
                                                                  4,593 mL
                                                                  1,596 mL
   PO:
             TF:
                                                                    600 mL
                                                                    259 mL
   IVF:
                                                                  3,443 mL
                                                                  1,077 mL
   Blood products:
   Total out:
                                                                  7,015 mL
                                                                  2,017 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    300 mL
   Balance:
                                                                 -2,422 mL
                                                                   -421 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 284 (284 - 351) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 194
   PIP: 21 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.45/36/172/21/2
   Ve: 8.2 L/min
   PaO2 / FiO2: 430
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Lungs: clear anteriorly
   CV: mildly tachycardic
   Abd: soft, nt +bs
   Ext: [**2-12**]+ edema
   Skin:  n
l turgor, no rashes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   139 K/uL
   107 mg/dL
   0.5 mg/dL
   21 mEq/L
   4.0 mEq/L
   6 mg/dL
   103 mEq/L
   133 mEq/L
   31.1 %
   12.3 K/uL
        [image002.jpg]
                             [**2143-8-4**]  05:50 AM
                             [**2143-8-4**]  06:02 AM
                             [**2143-8-4**]  11:19 AM
                             [**2143-8-4**]  11:58 AM
                             [**2143-8-4**]  05:17 PM
                             [**2143-8-4**]  05:32 PM
                             [**2143-8-5**]  12:42 AM
                             [**2143-8-5**]  12:51 AM
                             [**2143-8-5**]  06:18 AM
                             [**2143-8-5**]  06:27 AM
   WBC
   12.9
   12.3
   Hct
   32.4
   31.9
   31.8
   31.1
   Plt
   131
   139
   Cr
   0.7
   0.6
   0.6
   0.5
   TCO2
   23
   25
   24
   25
   26
   Glucose
   111
   127
   106
   111
   107
   Other labs: PT / PTT / INR:23.4/61.4/2.2, CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:80.8 %, Band:0.0 %, Lymph:9.7
   %, Mono:7.5 %, Eos:1.8 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:1.6 mg/dL
   Imaging: CXR: ETT at carina (will move 1 cm higher)
   Microbiology: Urine cx [**8-2**]: 4k of probable Enterococcus
   Line cx: 50K enterococcus
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 INEFFECTIVE COPING
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 .H/O THROMBOCYTOPENIA, HEPARIN-INDUCED (HIT, HITT)
 PLEURAL EFFUSION, ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   [**Age over 90 323**] yo female with ESRD on HD, hx of HIT admitted with sepsis/PNA with
   subsequent acute respiratory failure and shock secondary to
   sepsis/cardiogenic (LVef 20%)
   1. Acute respiratory failure:
   Remains tachypneic with attempts to wean, even on high PS (15)- could
   have some component of agitation, but  increased WOB implied by drop in
   Tv's and improvement on AC ventilation
   Finished abx for HCAP coverage and undergoing fluid removal with CVVHD
   Back on AC ventilation, Will try PSV again this afternoon
   2. Shock- remains pressor-dependent. Etiologies include sepsis
   (resolving), cardiogenic, sedation
   Dig-loaded to decrease HR- levels adequate
   Continue to adjust pressors for MAP>55
   3. Rising WBC: improving with removal of femoral TLC. Will extend abx
   (change to linezolid) for 7d s/p line removal, and f/u sensitivities
   4. HIT: on argatroban
   5. ESRD: fluid removal per renal
   Other issues as per ICU housestaff note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-5**] 02:52 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   PICC Line - [**2143-8-2**] 11:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, argatroban gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2143-08-06 11:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   started on linezolid for enterococcus from central line. tolerates
   CVVH. started on vasopressin. tolerated psv 15/5 for 8 hrs
   yest.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Cefipime - [**2143-8-4**] 07:53 AM
   Vancomycin - [**2143-8-4**] 08:40 AM
   Linezolid - [**2143-8-6**] 02:13 AM
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Norepinephrine - 0.04 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Vasopressin - 2.4 units/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Fentanyl - [**2143-8-6**] 03:57 AM
   Midazolam (Versed) - [**2143-8-6**] 03:57 AM
   Other medications:
   Lipitor, Protonix, Chlorhexidine, norepi gtt 0.04, argatroban gtt,
   digoxin 0.0625, linezolid, vasopressin 0.04 iu/min
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-6**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.2
C (95.4
   HR: 107 (102 - 126) bpm
   BP: 92/49(67) {80/41(57) - 103/53(72)} mmHg
   RR: 20 (13 - 33) insp/min
   SpO2: 77%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.3 kg (admission): 53.2 kg
   Height: 61 Inch
             Total In:
                                                                  3,296 mL
                                                                  1,229 mL
   PO:
             TF:
                                                                    600 mL
                                                                    226 mL
   IVF:
                                                                  2,256 mL
                                                                  1,003 mL
   Blood products:
   Total out:
                                                                  5,664 mL
                                                                  2,316 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
                                                                    375 mL
                                                                     70 mL
   Balance:
                                                                 -2,368 mL
                                                                 -1,087 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 267 (267 - 279) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 205
   PIP: 30 cmH2O
   SpO2: 77%
   ABG: 7.38/41/199/23/0
   Ve: 4.6 L/min
   PaO2 / FiO2: 498
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: absent LE, s/p bilat AKA
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   134 K/uL
   193 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.5 mEq/L
   7 mg/dL
   103 mEq/L
   134 mEq/L
   30.2 %
   12.9 K/uL
        [image002.jpg]
                             [**2143-8-5**]  12:22 PM
                             [**2143-8-5**]  12:33 PM
                             [**2143-8-5**]  06:01 PM
                             [**2143-8-5**]  06:13 PM
                             [**2143-8-5**]  11:26 PM
                             [**2143-8-5**]  11:54 PM
                             [**2143-8-6**]  04:59 AM
                             [**2143-8-6**]  05:12 AM
                             [**2143-8-6**]  10:09 AM
                             [**2143-8-6**]  10:24 AM
   WBC
   11.0
   12.9
   Hct
   29.5
   30.2
   Plt
   134
   Cr
   0.5
   0.5
   0.5
   TCO2
   27
   26
   26
   24
   25
   Glucose
   116
   143
   158
   193
   Other labs: PT / PTT / INR:23.0/57.3/2.2, CK / CKMB /
   Troponin-T:16/3/0.14, Differential-Neuts:91.0 %, Band:0.0 %, Lymph:5.0
   %, Mono:4.0 %, Eos:0.0 %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:155 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:1.6 mg/dL
   Imaging: [**8-6**] CXR- L effusion and LLL atelectasis vs effusion, ? RLL
   atelectasis vs infiltrate
   Microbiology: [**8-3**] fem line CVC- enterococcus ([**Last Name (un) **] pending)
   [**8-2**] Blood- pending
   Assessment and Plan
   [**Age over 90 323**] yo female with ESRD on HD, hx of HIT admitted with sepsis/PNA with
   subsequent acute respiratory failure and shock secondary to
   sepsis/cardiogenic (LVEF 20%)
   1. Acute respiratory failure: due to VAP and fluid overload,
   presumably. Tolerated PSV x 8hrs yest.
   -daily PSV trials, attempt to decrease support
   -Finished abx for HCAP coverage and undergoing fluid removal with CVVHD
   2. Shock- remains pressor-dependent. Etiologies include sepsis
   (resolving), cardiogenic
   -Dig-loaded to decrease HR- levels adequate
   -Continue to adjust pressors for MAP>55
   3. Leukocytosis: no clear source of infxn. tx'ing for fem line VAREC w/
   linezolid x total 7d (d2 today).
   4. HIT: on argatroban gtt
   5. ESRD: fluid removal per renal
   6. ? UGI bleeding- on argatroban gtt
   -increase PPI dosing
   -serial Hct checks
   Other issues as per ICU housestaff note.
   ICU Care
   Nutrition:
   Comments: tube feeds held
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   Arterial Line - [**2143-7-28**] 05:00 AM
   PICC Line - [**2143-8-2**] 11:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, Argatroban gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt independently, and was present with the ICU
   housestaff for the key portions of the services provided. I agree with
   Dr. [**Last Name (STitle) 9152**]
s note including assessment and plan, and would add:
   [**Age over 90 323**] yo female with ESRD on HD, PVD, HIT s/p bilateral AKA, systolic
   HF/low flow aortic stenosis admitted with PNA/septic shock and
   respiratory failure. Major issues include:
   1. Acute respiratory failure: Tolerated PSV for much of the day, though
   RSBI borderline on high PSV (15).  Contributors include recent PNA,
   volume overload, and sedation though she is more alert today. Plan vent
   wean as tolerated, continued removal of fluid, minimize sedative meds.
   2. Shock, septic/cardiogenic: Remains pressor dependent, on levophed
   and vasopressin for MAP>55. Adjust pressors as tolerated. Low BP may
   limit degree to which volume can be removed.
   3. VRE line sepsis: Started on linezolid, femoral CVL removed. Blood
   cultures so far negative.
   4. Blood tinged TF
s- no coffee grds emesis or [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 9805**]. Pt on
   argatroban which will increase bleeding, but has historically developed
   thrombotic disease when subtherapeutic. Will increase IV PPI to [**Hospital1 **]
   dosing, trend hct
s to eval for acute anemia.
   Pt is critically ill. Total time spent: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2143-8-6**] 15:41 ------

2143-08-09 08:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Family meeting yest w/ Dr. [**First Name (STitle) **], Dr. [**Last Name (STitle) 1948**], myself, [**First Name8 (NamePattern2) 36**] [**Last Name (NamePattern1) 9352**], SW,
   and [**First Name8 (NamePattern2) 566**] [**Last Name (NamePattern1) 9831**] present. Family unanimous in terminal extubation,
   hoping to have pt's brother arrive first.  Overnight worsened
   tachycardia, unable to obtain a resonable O2 sat. Mild response to
   bolus fentanyl and midazolam.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Bee Pollens
   Unknown; pt. is
   Last dose of Antibiotics:
   Linezolid - [**2143-8-8**] 08:00 PM
   Infusions:
   Argatroban - 1.85 mcg/Kg/min
   Norepinephrine - 0.08 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-8**] 08:00 PM
   Fentanyl - [**2143-8-9**] 07:50 AM
   Midazolam (Versed) - [**2143-8-9**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-9**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 143 (104 - 155) bpm
   BP: 70/43(46) {0/0(0) - 0/0(0)} mmHg
   RR: 13 (13 - 30) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 58.1 kg (admission): 53.2 kg
   Height: 61 Inch
             Total In:
                                                                  2,933 mL
                                                                    169 mL
   PO:
             TF:
                                                                    465 mL
   IVF:
                                                                  2,018 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  2,195 mL
                                                                    850 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                    738 mL
                                                                   -681 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   SpO2: 92%
   ABG: ///23/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: s/p bilat AKA
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   212 K/uL
   194 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.7 mEq/L
   11 mg/dL
   100 mEq/L
   134 mEq/L
   27.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2143-8-6**]  10:24 AM
                             [**2143-8-6**]  02:11 PM
                             [**2143-8-6**]  05:04 PM
                             [**2143-8-6**]  11:48 PM
                             [**2143-8-7**]  05:42 AM
                             [**2143-8-7**]  05:31 PM
                             [**2143-8-8**]  12:03 AM
                             [**2143-8-8**]  05:16 AM
                             [**2143-8-8**]  11:33 AM
                             [**2143-8-9**]  04:26 AM
   WBC
   14.8
   12.9
   13.7
   11.0
   Hct
   29.5
   27.3
   27.5
   27.0
   Plt
   168
   164
   178
   212
   Cr
   0.4
   0.4
   0.4
   0.4
   1.0
   TCO2
   25
   23
   Glucose
   179
   230
   230
   [**Telephone/Fax (3) 9829**]
   212
   194
   Other labs: PT / PTT / INR:29.3/71.8/2.9, CK / CKMB /
   Troponin-T:16/3/0.14, ALT / AST:[**1-5**], Alk Phos / T Bili:112/0.4,
   Differential-Neuts:91.6 %, Band:0.0 %, Lymph:5.1 %, Mono:3.2 %, Eos:0.1
   %, D-dimer:824 ng/mL, Fibrinogen:254 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:210 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname 2807**] is a [**Age over 90 323**] yo woman with hx of HIT, ESRD on HD, s/p b/l AKA
   presents with respiratory failure secondary to presumed pneumonia and
   complicated by severe heart failure physiology.  Unable to wean off
   vent or pressors.
   Goals of care.  Per family mtg this AM w/ son [**Name (NI) 435**] and daughter [**Name (NI) **],
   switching goals of care to CMO this AM.
   - notified Dr. [**Last Name (STitle) 1948**] and Dr. [**First Name (STitle) **]
   - will notify SW and Pall Care
   - dc all nonessential meds
   - start MSO4 and midazolam gtt, scopolamine patch
   - plan on extubation and dc pressors when family assembled, Dr. [**Last Name (STitle) 1948**]
   present
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2143-7-28**] 01:56 AM
   PICC Line - [**2143-8-2**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill